2100-08-03 09:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2100-8-3**] 12:28 AM
 MULTI LUMEN - START [**2100-8-3**] 01:52 AM
 ARTERIAL LINE - START [**2100-8-3**] 01:53 AM
   -Vanco/ZOsyn for ABX
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-8-3**] 04:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2100-8-3**] 05:18 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2100-8-3**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 91 (83 - 95) bpm
   BP: 91/22(39) {71/22(39) - 117/38(58)} mmHg
   RR: 27 (23 - 30) insp/min
   SpO2: 100%
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  1,301 mL
   PO:
   TF:
   IVF:
                                                                  1,301 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    610 mL
   Urine:
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 550) mL
   Vt (Spontaneous): 379 (379 - 379) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.18/60/119/20/-6
   Ve: 10.8 L/min
   PaO2 / FiO2: 119
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   167 K/uL
   91 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   82 mg/dL
   120 mEq/L
   149 mEq/L
   30.8 %
   32.4 K/uL
        [image002.jpg]
                             [**2100-8-3**]  12:42 AM
                             [**2100-8-3**]  02:06 AM
                             [**2100-8-3**]  02:28 AM
                             [**2100-8-3**]  03:11 AM
                             [**2100-8-3**]  03:15 AM
                             [**2100-8-3**]  04:48 AM
                             [**2100-8-3**]  06:33 AM
                             [**2100-8-3**]  07:52 AM
                             [**2100-8-3**]  08:19 AM
   WBC
   20.3
   32.4
   Hct
   31.4
   30.8
   Plt
   188
   167
   Cr
   1.9
   1.9
   TropT
   0.02
   TCO2
   21
   22
   23
   24
   22
   23
   24
   Glucose
   94
   91
   Other labs: PT / PTT / INR:14.5/32.5/1.3, CK / CKMB /
   Troponin-T:78//0.02, ALT / AST:37/14, Alk Phos / T Bili:109/0.7,
   Amylase / Lipase:/35, Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.1
   %, Mono:1.6 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL,
   LDH:206 IU/L, Ca++:6.6 mg/dL, Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: 7.18/60/100
   Imaging: CXR-Patient with ETT at 4cm H2O, Right sided IJ in place.  He
   has substantial bilateral pleural effusions and multifocal infiltrates
   in LUL and RLL most promintently
   Assessment and Plan
   84 yo male with history of pharyngeal cancer now admit to [**Hospital1 3356**] with desquamating rash following Ibuprofen use.  His hospital
   course there was complicated by renal failure, hepatitis and
   progression of rash to desquamation.  He, in the setting of some
   significant pain medications had worsening respiratory status and then
   with hypoxemic respiratory failure had intubation with significant
   secretions and is transferred to ICU with hypoxemic respiratory failure
   and sepsis.
   1)Respiratory Failure
This is impressive and signigicant hypoxemic and
   hypercarbic respiratory failure at this time.  On exam
patient has
   significant ongoing inspiratory effort and ventilator dys-syncrhony.
   In this setting he retains some very real expiratory flow limitation
   limiting total respiratory rate than can be safely delivered.
   Oxygenation compromise may well be related to effusions and multi-focal
   infiltrates.
   -Move to PCV at 30/10 with Ti=0.8 given exam during rounds
   -Repeat ABG
   -Will pursue ECHO to evaluate potential contribution from cardiogenic
   insult (Enzymes have been negative to date)
   -Vanco/Zosyn for pneumonia
   -[**Month (only) 11**] need to increase sedation in the setting but will work to optimize
   ventilator support
   -Esophageal balloon given severe hypoxemia, hemodynamic compromise with
   increased PEEP and need to establish truly effective ventilation and
   oxygenation support
   -Wil Keep PEEP at 10 for now given compromise
   -Continue with bronchodilators
   2)Sepsis-Likely pulmonary source, patient with significant and
   persistent compromise
   -Levophed 0.3 to continue
   -Will use pressors and CVP to guide intervention
   -Has CvO2=70 at this time
   -Will need continued support
   3)Acute Renal Failure-
   -Likely ATN
   -Will need to continue to support with adequate urine output and
   creatinine
   4)TEN-
   -Pred 20mg/d
   -Continue with slow taper
   -Will consult dermatology for input on consideration of soruces and
   link to systemic insult
   ICU Care
   Nutrition: Tube Feeds to start and continue with NGT placement
   Glycemic Control:
   Lines:
   Multi Lumen - [**2100-8-3**] 01:52 AM-_From OSH will have to be replaced
   Arterial Line - [**2100-8-3**] 01:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent:75 Minutes

2100-08-04 07:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   - continued on levophed and vasopressin (as of midnight, check in AM)
   - multiple vent setting changes made without improvement.  Acidosis
   primarily secondary to septic shock.  Look at long list of ABGs!
   - had family meeting
   - derm consult: pathology at outside hospital showed LCV.  This may be
   resolving LCV secondary to NSAIDS or infection.  The rash does not
   appear to be an active process and there is no evidence of systemic
   vasculitis.  Therefore, reasonable to discontinue steroids.  It is also
   possible that pts rash is a hypersensitivity reaction.
   - nutrition consult: TF recommended
   - continued on flagyl/cipro.  Added ceftriaxone (one dose) to cover
   possible disseminated strep pneumo infection.  Discuss in rounds
   whether to continue.
   - OSH CT Scan: patchy left lower love and smaller right upper lobe
   infiltrates.  Small to medium sized bilateral pleural effusions with
   associated bibasilar atelectasis and consolidation.
   - abdominal u/s: 1. The aorta is not of normal caliber throughout.
   2. The kidneys are slightly decreased in size with slightly atrophic
   parenchyma with no focal masses or abnormalities. 3. Small amount of
   pericholecystic fluid is seen. 4. One gallstone in the gallbladder with
   no gallbladder wall thickening.
   - OG tube placed
   - resited central line to the left side
   - blood cx: pending
   - urine cx: pending
   - ANCA: pending   [**Doctor First Name **]: pending
   - LFTs: WNL
   - sputum cx: gram positive cocci in pairs and clusters
   - f/u c. diff: ordered, has not stooled
   - check urine lytes: urea: 608, Na: 31, creatinine: 44
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-8-3**] 04:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2100-8-3**] 05:18 AM
   Cefipime - [**2100-8-3**] 10:15 AM
   Ciprofloxacin - [**2100-8-3**] 03:14 PM
   Metronidazole - [**2100-8-3**] 11:43 PM
   Ceftriaxone - [**2100-8-4**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2100-8-3**] 05:48 PM
   Fentanyl - [**2100-8-3**] 05:48 PM
   Heparin Sodium (Prophylaxis) - [**2100-8-3**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-4**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 87 (84 - 97) bpm
   BP: 114/38(59) {90/22(39) - 124/47(250)} mmHg
   RR: 29 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  3,941 mL
                                                                    475 mL
   PO:
   TF:
                                                                     53 mL
                                                                    213 mL
   IVF:
                                                                  3,819 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                    914 mL
                                                                    118 mL
   Urine:
                                                                    914 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,027 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (350 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 34 cmH2O
   SpO2: 100%
   ABG: 7.15/57/206/18/-9
   Ve: 14.8 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General: Not Well nourished, intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: rhonchorous bilat
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  some desquamation around fingers and toes, erythema on arms,
   blanching on legs with erythematous patches, no skin breakdown
   Neurologic: sedated, not arousable to voice
   Labs / Radiology
   8.8 g/dL
   150 K/uL
   242 mg/dL
   2.6 mg/dL
   18 mEq/L
   5.1 mEq/L
   93 mg/dL
   117 mEq/L
   146 mEq/L
   28.3 %
   29.1 K/uL
        [image002.jpg]
                             [**2100-8-3**]  11:27 AM
                             [**2100-8-3**]  01:02 PM
                             [**2100-8-3**]  02:32 PM
                             [**2100-8-3**]  04:12 PM
                             [**2100-8-3**]  05:49 PM
                             [**2100-8-3**]  06:40 PM
                             [**2100-8-3**]  10:24 PM
                             [**2100-8-3**]  11:49 PM
                             [**2100-8-4**]  05:49 AM
                             [**2100-8-4**]  06:07 AM
   WBC
   29.1
   Hct
   28.3
   Plt
   150
   Cr
   2.3
   2.6
   TCO2
   23
   21
   22
   21
   20
   21
   20
   21
   Glucose
   133
   242
   Other labs:
   ALT / AST:28/20, Alk Phos / T Bili:118/0.5,
   Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL,
   LDH:249 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   Type:[**Last Name (un) **]
   pH:7.20 O2Sat: 91
   Urine Lytes:
   UreaN:608
   Creat:44
   Na:31
   ANCA: Pnd
   [**Doctor First Name **]: Pnd
   Micro:
   [**8-3**] blood and urine cx ntd
   [**8-3**] urine legionella neg
[**8-3**] sputum cx GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.
[**8-3**] MRSA and VRE pnd
Imaging:
   OSH CT Scan: patchy left lower love and smaller right upper lobe
   infiltrates.  Small to medium sized bilateral pleural effusions with
   associated bibasilar atelectasis and consolidation.
[**8-3**] TTE: LVEF>55%. Grossly preserved biventricular systolic function. Moderate
pulmonary hypertension. Suboptimal study.
   [**8-3**] Abdominal U/S:
   1. The aorta is not of normal caliber throughout.
   2. The kidneys are slightly decreased in size with slightly atrophic
   parenchyma with no focal masses or abnormalities.
   3. Small amount of pericholecystic fluid is seen.
   4. One gallstone in the gallbladder with no gallbladder wall
   thickening.
[**8-4**]: CXR (my read): infiltrate seen in the left lower lobe.
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and started on dopamine for hypotension.  Transferred to [**Hospital1 1**] for
   management of respiratory failure and hypotension.
   .
   #) Respiratory failure: Unclear etiology.  Given AMS, family report of
   poor difficulty swallowing, and acute change in CXR, aspiration is
   possible.  HAP and CHF/Volume overload also possible particularly given
   his hyperdynamic EF (reportedly 75%) and volume rescusciation given his
   desquamation.  Patient's smoking history puts him at risk for COPD.
   Vasculitis in lungs less likely given no blood seen on bronch, stable
   HCT.
   - AC with FI02 tonight, consider weaning tomorrow
   - possible bronch in the AM
   - Vanco/Zosyn for HAP
   - Sputum culture
   - ECHO in the AM
   - continue prednisone taper and nebs for ? COPD
   - repeat CXR in AM
   - repeat ABG in AM
   - check ANCA
   - may need chest CT if no clear etiology determined.
   .
   #) Hypotension: Could be related to intubation, sedation as occurred
   peri-intubation.  However, infection/sepsis is also a possibility given
   his clinical picture.  Also, patient recently diuresed so hypovolemia
   possibly contributing (though CVP not transducing).  Lactic acidosis
   considered, but lactate normal.
   -d/c dopamine as patient recently in afib with RVR
   -levophed to keep MAP >60
   -CVP not [**Location (un) 103**], Vigileo for fluid status
   -good UOP, got IVF tonight.
   -continue steroid taper
   -blood cultures, urine cultures, urine legionella antigen
   -hold metoprolol and hold lasix
   .
   #) Rash: Unclear etiology.  Leukoclastic vasculitis most commonly
   associated with medication effect but patient only noted to take 2
   advil.  No toxin exposures.  Could be paraneoplastic phenomenon given
   h/o throat cancer and recent weight loss, poor PO and dysphagia.
   -wound care consult (were using eucerin cream at OSH)
   -supportive care for now.
   -on prednisone taper
   -no advil/motrin
   .
   #) Renal Failure: Likely related to desquamation/rash and dehydration.
   Creatinine trending down and close to baseline (though up from 1.4 on
   Saturday).  Less likely to be pulmonary-renal syndrome given
   improvement in renal and worsening in pulm status
   -renally dose medications.
   -repeat creatinine in AM, if worsening would check urine lytes
   -u/a with culture
   .
   #) Altered mental status: Patient's MS initially improving and then
   declined with decline in respiratory status.  Patient at high risk for
   delerium given underlying dementia, and then received multiple doses of
   haldol, some ativan and ?ambien.  Less likely ETOH withdrawl given pt.
   drinks 2 beers/[**Last Name (un) **], but this is possible.
   -f/cu CT head from OSH
   -give thiamine.
   .
   #) Hypernatremia: Likely [**12-21**] volume depletion during diuresis.
   -fluids tonight, recheck lytes in AM.
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) afib with RVR: patient in sinus here, holding metoprolol given
   hupotension.
   .
   #) hypothyroidism: Patient on 75mcg PO
   -37.5 mcg IV levothyroxine
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-3**] 06:56 PM 40 mL/hour
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: Famotidine 20 mg PO BID
   VAP: VAP bundle
   Comments:
   Communication:  Comments:
   Code status:
   Disposition : continue ICU care

2100-08-04 10:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2100-8-3**] 10:10 AM
 MULTI LUMEN - START [**2100-8-3**] 12:53 PM
 BLOOD CULTURED - At [**2100-8-3**] 02:29 PM
 TRANSTHORACIC ECHO - At [**2100-8-3**] 03:14 PM
 THORACENTESIS - At [**2100-8-3**] 03:20 PM
 MULTI LUMEN - STOP [**2100-8-3**] 04:00 PM
   Pressors--moved to Levophed and Vasopressin
   Ventilatory Support modified with improved PaO2 and with persistent
   respiratory acidosis
   -With PEEP=18 have been able to wean FIO2 to 0.6
   -CVL resited to left side
   -Derm consult completed and agreement with discontinuation of steroids
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-8-3**] 04:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2100-8-3**] 05:18 AM
   Cefipime - [**2100-8-3**] 10:15 AM
   Ciprofloxacin - [**2100-8-3**] 03:14 PM
   Ceftriaxone - [**2100-8-4**] 02:00 AM
   Metronidazole - [**2100-8-4**] 07:59 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2100-8-3**] 05:48 PM
   Fentanyl - [**2100-8-3**] 05:48 PM
   Heparin Sodium (Prophylaxis) - [**2100-8-4**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2100-8-4**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 86 (84 - 97) bpm
   BP: 121/40(61) {90/27(45) - 124/47(250)} mmHg
   RR: 32 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 290 (15 - 294)mmHg
   Total In:
                                                                  3,941 mL
                                                                    984 mL
   PO:
   TF:
                                                                     53 mL
                                                                    316 mL
   IVF:
                                                                  3,819 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                    914 mL
                                                                    118 mL
   Urine:
                                                                    914 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,027 mL
                                                                    867 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   SpO2: 100%
   ABG: 7.21/48/154/18/-8
   Ve: 13.7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   150 K/uL
   242 mg/dL
   2.6 mg/dL
   18 mEq/L
   5.1 mEq/L
   93 mg/dL
   117 mEq/L
   146 mEq/L
   28.3 %
   29.1 K/uL
        [image002.jpg]
                             [**2100-8-3**]  01:02 PM
                             [**2100-8-3**]  02:32 PM
                             [**2100-8-3**]  04:12 PM
                             [**2100-8-3**]  05:49 PM
                             [**2100-8-3**]  06:40 PM
                             [**2100-8-3**]  10:24 PM
                             [**2100-8-3**]  11:49 PM
                             [**2100-8-4**]  05:49 AM
                             [**2100-8-4**]  06:07 AM
                             [**2100-8-4**]  08:54 AM
   WBC
   29.1
   Hct
   28.3
   Plt
   150
   Cr
   2.3
   2.6
   TCO2
   21
   22
   21
   20
   21
   20
   21
   20
   Glucose
   133
   242
   Other labs: PT / PTT / INR:14.5/32.5/1.3, CK / CKMB /
   Troponin-T:78//0.02, ALT / AST:28/20, Alk Phos / T Bili:118/0.5,
   Amylase / Lipase:/35, Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.1
   %, Mono:1.6 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Albumin:2.4 g/dL,
   LDH:249 IU/L, Ca++:6.6 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   Fluid analysis / Other labs: 7.21/48/154
   Imaging: CXR-mild hyperinflation seen, bialteral infiltrates persist,
   no effusions
   ECHO--LVEF=>55%, mild PAH
   ABD U/S--Small pericholecysitic fluid, normal aortic diameter
   throughout
   Microbiology: Sputum-GS---GPC ad GNR on stain
   Assessment and Plan
   84 yo male with initial admission with rash and now with hypoxemic
   respiratory failure complicated by sepsis.  His initial insult for the
   respiratory failure may well be an aspiration event in the setting of
   delirium, may well simply be hospital acquired pneumonia or alternative
   source of sepsis driving current picture of ARDS.  He has been able to
   maintain improvement in oxygenation and stability of pressor
   requirements across past 24 hours.  What is of concern is evolution of
   renal failure and persistent gap and non-gap acidosis with pH decreased
   signficantly
   1)Respiratory Failure/ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE
   LUNG INJURY, [**Doctor Last Name 2**])-
   Hypoxemia
we have PEEP=18 and FIO2=0.5 through to this morning, with
   decreased of PEEP to 14 and maintenance of same driving pressure do
   have an increase in Vt to 480 from 450cc this morning suggesting modest
   overdistention at previous PEEP.  Will decrease to 14 and FIO2=50 and
   re-evaluate ABG
   Pneumonia
Patient with significant pulmonary infiltrate and likely
   hospital acquired pneumonia with broad coverage in effect and will
   continue with Vanco and 2 antibiotic therapy for possible gram negative
   organisms
Vanco/Cefepime/Ceftriaxone/Cipro/Flagyl
   Hypercarbic Respiratory Failure
This is present but quite mild
if we
   can better effect ventilation with improved PEEP titration we may see
   decrease in CO2 at next ABG.  Will tolerate pH at 7.2 or greater given
   multiple competing issues.
   2)Sepsis
   -Vanco/CTX/Cefepime/Cipro/Flagyl to continue
   -Will wean Levophed as possible with Vasopressin in place
   -Continue to follow cultures results
   3)Acidosis
   Anion Gap
Likely renal failure
   Non-Anion Gap
Likely related to saline given and volume expansion
   Respiratory Acidosis
Likely related to respiratory failure
   4)Rash
Evaluation by dermatology of great aid, appreciate input
   -Pred 20mg/d to discontinue today.
   Thiamine
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-3**] 06:56 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT:SQ Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  Family updated in full, plan discussed with
   nursing during rounds
   Code status: Full
   Disposition :ICU
   Total time spent: 75

2100-08-05 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - On pressure control, RR decreased, did well
   - derm recs: erosions on the lips, DFA positive for HSV. recommend
   sarting acyclovir 400mg PO TID, and derm will f/u path review from [**Hospital1 966**]
   - stool was guaiac positive, smelled like melena but stool was was
   brown. NG lavage was attempted but wasn't getting anything out for
   hemoccult test
   - famotidine was switched to pantoprazole
   - off both pressors at 3am, but back on at 8 am.
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2100-8-3**] 05:18 AM
   Cefipime - [**2100-8-3**] 10:15 AM
   Ceftriaxone - [**2100-8-4**] 02:00 AM
   Ciprofloxacin - [**2100-8-4**] 02:33 PM
   Vancomycin - [**2100-8-4**] 05:53 PM
   Metronidazole - [**2100-8-5**] 12:08 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-4**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-5**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 69 (68 - 90) bpm
   BP: 94/29(45) {92/29(45) - 121/40(61)} mmHg
   RR: 19 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (11 - 290)mmHg
   Total In:
                                                                  2,439 mL
                                                                    630 mL
   PO:
   TF:
                                                                    747 mL
                                                                    275 mL
   IVF:
                                                                  1,512 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                    323 mL
                                                                    185 mL
   Urine:
                                                                    323 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,116 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 22 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   SpO2: 100%
   ABG: 7.31/39/108/17/-6
   Ve: 15.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, increased peeling, perioral lesions
   Neurologic: sedated, not arousable to voice or pain, moves all ext in
   response to pain stimuli, corneal reflex intact but blunted, pupils
   sluggish bilat
   Labs / Radiology
   124 K/uL
   7.5 g/dL
   118 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.4 mEq/L
   105 mg/dL
   121 mEq/L
   151 mEq/L
   24.0 %
   19.5 K/uL
        [image002.jpg]
                             [**2100-8-4**]  08:54 AM
                             [**2100-8-4**]  11:29 AM
                             [**2100-8-4**]  02:19 PM
                             [**2100-8-4**]  02:37 PM
                             [**2100-8-4**]  05:54 PM
                             [**2100-8-4**]  06:05 PM
                             [**2100-8-5**]  12:21 AM
                             [**2100-8-5**]  12:32 AM
                             [**2100-8-5**]  04:55 AM
                             [**2100-8-5**]  05:26 AM
   WBC
   19.5
   Hct
   24.6
   24.1
   24.0
   Plt
   124
   Cr
   2.7
   2.8
   TCO2
   20
   20
   21
   20
   20
   21
   Glucose
   279
   118
   Other labs:
   Lactic Acid:1.4 mmol/L,
   Ca: 7.4 Mg: 2.2 P: 3.8
   iCa 1.00
   ANCA: neg
   [**Doctor First Name **]: neg
   Micro:
   [**Date range (1) 8319**] blood cx ntd
   [**8-3**] urine cx neg
   [**8-3**] urine legionella neg
[**8-3**] sputum gram stain: GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.
[**8-3**] sputum cx pnd
[**8-3**] MRSA and VRE pnd
OSH BAL showed group B strep
[**8-4**] c diff neg x1
[**8-3**] perioral lesion- direct antigen test for HSV-1 positive
CXR (my read): persisting left lobe infiltrate
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and started on dopamine for hypotension.  Transferred to [**Hospital1 1**] for
   management of respiratory failure and hypotension.
   .
   #) Respiratory failure: Likely in ARDS [**12-21**] underlying HAP or
   aspiration.  TTE showed normal EF, r/o CHF. Patient's smoking history
   puts him at risk for COPD.  Vasculitis in lungs less likely given no
   blood seen on bronch, stable HCT.
   - will decr RR and repeat ABG
   - continue Vanco/Cefepime/Cipro for HAP for now
   - change Vanc to q48h, check level in AM
   - sputum cx grew GBS
   - f/u Derm about whether the skin findings may be consistent with toxic
   shock syndrome from GBS infection -> if so, may consider starting
   Clindamycin
   - f/u blood cultures
   - ANCA/[**Doctor First Name **] are neg
   - CXR indicates cavitation -> will oprder CT chest  for better eval
   .
   #) Hypotension: Likely [**12-21**] sepsis from underlying lung infection.
   Currently on Levophed and vasopression.
   - continue to wean off pressors as tolerated
   - continue to treat underlying infection
   - monitor UOP, SBPs
   - f/u cultures
   -hold metoprolol and lasix
   .
   #) Acid/base disturbances:
   - continues to have anion gap metabolic acidosis that is likely [**12-21**] to
   uremia (lactate is nl, not diabetic)
   - respiratory acidosis seems to have resolved
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis
   -wound care (pt also has ulcer on coccyx)
   - Aquapor [**Hospital1 **]
   -d/c steroids per derm
   -f/u any new derm recs
   - will ask Derm about possibility of toxic shock syndrome from GBS
   -no advil/motrin
   - HSV-1 postive perioral lesions
   - per Derm, started Acyclovir for HSV perioral lesions
   - renally dose Acyclovir
   .
   #) Renal Failure: Cr up to 2.8 from 2.6. Most likely [**12-21**] ATN from
   hypotension from sepsis.  Also, could be prerenal from hypotension,
   dehydration.
   -renally dose medications
   -FeNa is 1.25% indicating instrinsic>prerenal etiology
   - increase free H2O flushes, check PM lytes
   .
   #) Altered mental status: Likely [**12-21**] sedation and prolonged acidemia.
   Currently, sedated, unresponsive to voice or pain.
   -improved Neuro exam today with movement in all limbs in response to
   pain
   - order CT head to r/o acute pathology
   -continue thiamine
   .
   #) Hypernatremia: Likely [**12-21**] volume depletion during diuresis.
   - increase free water flushes to 250cc q4h
   - PM lytes
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: patient in sinus here, holding metoprolol given
   hypotension.
   .
   #) Hypothyroidism:
   -continue 37.5 mcg IV levothyroxine
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-5**] 12:00 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: continue ICU care

2100-08-06 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2100-8-5**] 11:39 AM
   - Got CT chest: Extensive left lower lobe pneumonia with associated
   small parapneumonic effusion. Multiple areas of ground-glass
   attenuation and minimal consolidation elsewhere in the lungs likely
   reflect early multifocal spread of pneumonia.
   - Got CT head: No evidence of acute hemorrhage or major vascular
   territorial infarction.
   - non-Group A strep in sputum cx from [**8-3**]
   - Derm recs: emailed them about GBS in sputum, ?toxic shock syndrome
   explain skin findings -> should we start clinda?
   - PM Hct 22.3 (was 24.0 in AM) -> did not transfuse, will trend in AM
   - PM lytes Na 151  Cr 3.0
   - increased free H2O flushes to 250cc q4h
   - ordered Vanc trough in AM
   - started Aquaphor [**Hospital1 **]
   - renally dosed Acyclovir -> then dc'd it as it was not contributing to
   the lung and skin pathologies at this time
   - PRES C decr RR 28 to 24-> ABG pH 7.29 pCO2 42 pO2 110 HCO3 21
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2100-8-4**] 02:00 AM
   Cefipime - [**2100-8-5**] 09:48 AM
   Ciprofloxacin - [**2100-8-5**] 02:35 PM
   Vancomycin - [**2100-8-5**] 08:11 PM
   Metronidazole - [**2100-8-6**] 12:23 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-5**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-5**] 03:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-6**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 81 (66 - 83) bpm
   BP: 112/26(42) {94/22(39) - 129/33(54)} mmHg
   RR: 25 (21 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 10 (9 - 12)mmHg
   Total In:
                                                                  3,003 mL
                                                                    951 mL
   PO:
   TF:
                                                                    754 mL
                                                                    241 mL
   IVF:
                                                                  1,299 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                    220 mL
   Urine:
                                                                    582 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,421 mL
                                                                    731 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.34/39/89.[**Numeric Identifier 433**]/20/-4
   Ve: 16.3 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, increased peeling, perioral lesions
   Neurologic: sedated, not arousable to voice or pain, moves all ext in
   response to pain stimuli, corneal reflex intact but blunted, pupils
   sluggish bilat
   Labs / Radiology
   125 K/uL
   7.6 g/dL
   107 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.4 mEq/L
   111 mg/dL
                                     122
   150
   22.9 %
   15.0 K/uL
        [image002.jpg]
                             [**2100-8-4**]  06:05 PM
                             [**2100-8-5**]  12:21 AM
                             [**2100-8-5**]  12:32 AM
                             [**2100-8-5**]  04:55 AM
                             [**2100-8-5**]  05:26 AM
                             [**2100-8-5**]  09:10 AM
                             [**2100-8-5**]  03:51 PM
                             [**2100-8-5**]  04:14 PM
                             [**2100-8-6**]  05:24 AM
                             [**2100-8-6**]  06:00 AM
   WBC
   19.5
   15.0
   Hct
   24.1
   24.0
   22.3
   22.9
   Plt
   124
   125
   Cr
   2.8
   3.0
   3.0
   TCO2
   20
   20
   21
   21
   21
   22
   Glucose
   118
   105
   107
   Other labs:
   PT / PTT / INR:13.9/42.6/1.2,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Vanc: 25.7
   ANCA: neg
   [**Doctor First Name **]: neg
   Micro:
[**2100-8-3**] 5:23 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2100-8-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Final [**2100-8-5**]):
      SPARSE GROWTH Commensal Respiratory Flora.
      BETA STREPTOCOCCI, NOT GROUP A.    MODERATE GROWTH.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   FUNGAL CULTURE (Preliminary):
   [**Date range (1) 8319**] blood cx ntd
   [**8-3**] urine cx neg
   [**8-3**] urine legionella neg
[**8-3**] MRSA and VRE neg
OSH BAL showed group B strep
[**8-4**] c diff neg x1
[**8-3**] perioral lesion- direct antigen test for HSV-1 positive
Chest CT:
   Extensive left lower lobe pneumonia with associated small parapneumonic
   effusion. Multiple areas of ground-glass attenuation and minimal
   consolidation elsewhere in the lungs likely reflect early multifocal
   spread of
   pneumonia.
   Hydrostatic edema, anasarca and ascites.
   Hyperdense liver, possibly due to amiodarone therapy. Recommend
   correlation
   with drug history.
   Diffuse coronary artery calcifications.
CT head:
   IMPRESSION: No evidence of acute hemorrhage or major vascular
   territorial
   infarction. Please note that MRI is more sensitive in detection of
   acute
   ischemia.
CXR (my read): persisting left lobe infiltrate
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and started on dopamine for hypotension.  Transferred to [**Hospital1 1**] for
   management of respiratory failure and hypotension.
   .
   #) SVT: pt was found to be in SVT, most likely AVNRT or AVNT. Pt was
   hemodynamically unstable, SBP in the 70s to 80s despite being on
   levophed. In terms of etiologies of SVT, it is likely secondary to
   infection, volume depletion and levophed which is a beta1 agonist.
   - cardioversion when pt goes back into SVT with hemodynamic instability
   - change levophed to neo.
   - transfuse 2u pRBC for volume repletion
   - continue treatment for respiratory infection
   .
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out non-group A strep and OSH
   sputum was positive with GBS. Unsure whether GBS would give a toxic
   shock syndrome picture and lead to ARDS.  TTE showed normal EF, r/o
   CHF. Patient's smoking history puts him at risk for COPD.  Vasculitis
   in lungs less likely given no blood seen on bronch, stable HCT.
   ANCA/[**Doctor First Name **] are neg.
   - advance ETT as the tube is too high
   - on PC, will decr RR further as pt appears to have autoPEEP and not
   able to breath out completely, and repeat ABG
   - continue Vanco/Cefepime/Cipro for HAP for now
   - consider decreasing vanc to 1gm q48h as vanc trough is 25.7, recheck
   vanc trough tomorrow
   - consult ID re antibiotic choice and whether clinda should be started
   to treat toxic shock syndrome
   - f/u cultures
   .
   #) sepsis: Pt meets the criteria for sepsis. The source of infection is
   likely pulmonary given CXR and CT evidence of LLL pneumonia. Other
   source of infection includes GI but no evidence of GI infection at this
   time, no diarrhea noted. KUB on [**8-3**] showed small amount of
   pericholecystic fluid, but no cholecystitis was seen. Pt has a coccyx
   ulcer but the wound does not appear infected. Blood culture has been
   negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so wouldn
t get at CT sinus at this point.
   - continue vanc/cefepime/cipro for now
   - f/u ID recs
   - continue to monitor, goal MAP>65, UOP>30cc/hr, CVP >[**8-30**] and ScvO2
   >70%
   - f/u cultures
   - continue wound care for coccyx ulcer
   .
   #) Hypotension: Likely [**12-21**] sepsis from underlying lung infection.
   Currently on Levophed and vasopression.
   - change levophed to neo in the setting of SVT with hemodynamic
   instability
   - continue to treat underlying infection
   - monitor UOP, MAP, CVP
   - f/u cultures
   - hold metoprolol and lasix
   .
   #) Acid/base disturbances: gap closed. Continues to mild non-anion gap
   metabolic acidosis, likely secondary to hyperchloremic metabolic
   acidosis.
   - give LR instead of NS if giving IVF
   .
   #) Anemia: Hct has been trending down. On admission Hct was 31.4. DDx
   includes GIB given he was guaiac positive, anemia of chronic disease /
   inflammation or DAH given CXR infiltrate. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - send Fe studies, B12, Folate, hemolysis labs
   - continue to monitor
   .
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome
   - per derm, reasonable to start clinda but resident will check with
   attending
   -wound care (pt also has ulcer on coccyx)
   - Aquafor [**Hospital1 **]
   -d/c
d steroids per derm
   - f/u any new derm recs
   - no advil/motrin
   - HSV-1 postive perioral lesions per Derm, started Acyclovir for HSV
   perioral lesions, but it was d/c
d given HSV infection most likely does
   not contribute to the current presentation
   .
   #) Renal Failure:  Cr trending up 1.9---3.0. Most likely [**12-21**] ATN from
   hypotension from sepsis. Vasculitis is less likely given neg [**Doctor First Name **] and
   ANCA, but if renal function continues to worsen would consider that
   possibility given his picture of respiratory failure, renal failure,
   vasculitic skin lesions and anemia.
   - renally dose medications
   - repeat UA urine lytes, consider renal consult if renal function
   continues to worse
   .
   #) Altered mental status: Likely [**12-21**] sedation and prolonged sepsis.
   Currently, sedated, no corneal or pupil reflexes, however pt does move
   extremities to pain. CT head was negative for any intracranial process.
   -neuro exam when sedation is lightened
   -continue thiamine
   .
   #) Hypernatremia: Likely [**12-21**] volume depletion during diuresis.
   - increase  free water flushes to 250cc q3h from q4h
   - PM lytes
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: this morning was in SVT (AVRT or AVNRT), was
   condioverted
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick thyroid syndrome
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - update family
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-6**] 01:16 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: continue ICU care

2100-08-06 09:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2100-8-5**] 11:39 AM
   -Patient with recurrent and significant NSVT with rate to 160
   -PCV able to be decreased to rate=24
   History obtained from Medical records
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2100-8-4**] 02:00 AM
   Cefipime - [**2100-8-5**] 09:48 AM
   Ciprofloxacin - [**2100-8-5**] 02:35 PM
   Vancomycin - [**2100-8-5**] 08:11 PM
   Metronidazole - [**2100-8-6**] 12:23 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-5**] 03:59 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2100-8-6**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 81 (66 - 83) bpm
   BP: 119/26(44) {94/22(39) - 129/33(54)} mmHg
   RR: 27 (21 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 347 (9 - 347)mmHg
   Total In:
                                                                  3,003 mL
                                                                  1,056 mL
   PO:
   TF:
                                                                    754 mL
                                                                    310 mL
   IVF:
                                                                  1,299 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                    220 mL
   Urine:
                                                                    582 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,421 mL
                                                                    836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 100%
   ABG: 7.34/39/89.[**Numeric Identifier 433**]/20/-4
   Ve: 16.8 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Very decreased pupillary responses and conrneal responses
   through to this morning.
   Labs / Radiology
   7.6 g/dL
   125 K/uL
   107 mg/dL
   3.0 mg/dL
   20 mEq/L
   4.4 mEq/L
   111 mg/dL
   122 mEq/L
   150 mEq/L
   22.9 %
   15.0 K/uL
        [image002.jpg]
                             [**2100-8-4**]  06:05 PM
                             [**2100-8-5**]  12:21 AM
                             [**2100-8-5**]  12:32 AM
                             [**2100-8-5**]  04:55 AM
                             [**2100-8-5**]  05:26 AM
                             [**2100-8-5**]  09:10 AM
                             [**2100-8-5**]  03:51 PM
                             [**2100-8-5**]  04:14 PM
                             [**2100-8-6**]  05:24 AM
                             [**2100-8-6**]  06:00 AM
   WBC
   19.5
   15.0
   Hct
   24.1
   24.0
   22.3
   22.9
   Plt
   124
   125
   Cr
   2.8
   3.0
   3.0
   TCO2
   20
   20
   21
   21
   21
   22
   Glucose
   118
   105
   107
   Other labs: PT / PTT / INR:13.9/42.6/1.2, CK / CKMB /
   Troponin-T:78//0.02, ALT / AST:28/20, Alk Phos / T Bili:118/0.5,
   Amylase / Lipase:/35, Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.1
   %, Mono:1.6 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL,
   LDH:249 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: Chest CT-
   Pneumonia and consolidation in left lung
   Small effusion
   CT Head-
   No bleed, no infarction
   CXR--Left IJ in good position, ETT not in appropriate position as of
   yet
   Microbiology: Sputum-Strep Species-_Beta Hemolytic Strep species
   BC-Negative from [**8-3**] and [**8-4**]
   Assessment and Plan
   84 yo male with admission with ARDS secondary to pneumonia +/-
   aspiration and now with persistent respiratory failure complicated by
   acute renal failure and recurrent tachycardia.  He has had some
   improved compliance and improved oxygenation with good support but with
   recurrent and persistent tachycardia patient also maintains worsening
   renal function with creatinine increased to 3.0.
   1)Respiratory Failure-This would appear to be more easily supported
   this morning with PCV levels and FIO2 able to be decreased
   -Will decrease rate and PEEP today as tolerated.
   -Goal Pplat is much closer to 25
   2)Sepsis-This, again is most likely related to pulmonary source with
   Strep species and have been able to wean pressors to off only
   transiently and now with return to persistent levophed requirement.
   This likely represents continued vasodilatory shock
   -Continue with broad spectrum ABX
   -Keep CVP at 12
   -Will change pressors to non-beta agonist
   -He has had some decrease in fever and WBC count
   3)Tachycardia--Patient with recurrent AVNRT this morning
refractory to
   adenosine but responsive to cardioversion at 50 Joules x2.  This is in
   the setting of continued requirement for pressor support and continued
   SIRS with pneumonia slow to resolve.  This presented during rounds this
   morning
   -Will assure volume replete
   -Will continue to treat sepsis
   -If recurrent will need to move to non-beta agonist pressor
   -Cardioversion as needed today
   4)Acute Renal Failure-
   -Patient with continued and persistence of elevation in creatinine
   -Urine flow has been borderline
   5)Altered Mental Status
Patient with persistent decreased
   responsiveness but in the setting of high ventilator requirements and
   recurrent tachycardia with need for cardioversion it has been difficult
   to get a sustained time of hold on sedation to complete exam.  Head CT
   is reassuring.
   -Minimize sedation as possible today
   -Follow up neuro exam
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-6**] 01:16 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT:  Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Patient with continued and persistent overal
   clinical deceline.  There is minimal expectation of recovery to full
   independent life given severity of illness and persistence of decline.
   Code status: Full
   Disposition : ICU
   Total time spent: 75

2100-08-07 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-6**] 09:15 AM
   50 j
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-6**] 09:20 AM
   50 j
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-6**] 12:53 PM
   50 j
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-7**] 03:45 AM
   SVT 150's---50J
   - had SVT X 3 today (3rd episode occurred around 4AM), converted with
   electric cardioversion -> now in sinus rhythm
   - stopped levothyroxine (started at outside hospital)
   - ID consult: See note in OMR.  Began penicillin G 4 million
   units IV q 4 hours (the drug of choice for GBS), clindamycin 900 mg IV
   q 8 hours to inhibit toxin production, continue the cipro for
   gram-negative coverage.  Discontinued vancomycin, cefepime, and
   flagyl.  Acyclovir 10 mg/kg IV q 8 hours for empiric therapy.
   -> This AM, will need to touch base with ID about BAL and whether it is
   necessary.
   - derm consult: believe rash to be secondary to hypersensitibvity
   reaction to cefepime.  Group A strep is normally implicated in TSS.
   Would recommend d/cing cefepime to cipro/levo.  Triamcinolone ointment
   [**Hospital1 **] X 2 weeks for the rash.
   - advanced ETT 4cm -> CXR: now 2.5 cm above carina
   - family meeting was held
   - change levo to neo (levo is beta agonist, may have contributed to
   SVT)
   - follow gas: 7.27, 41, 101 (metabolic acidosis)
   - transfused 2 unit PRBCs given Hct of 22.  Hct at 8PM: 28.1
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-8-5**] 08:11 PM
   Cefipime - [**2100-8-6**] 11:05 AM
   Metronidazole - [**2100-8-6**] 05:07 PM
   Ciprofloxacin - [**2100-8-6**] 08:06 PM
   Acyclovir - [**2100-8-6**] 10:03 PM
   Clindamycin - [**2100-8-7**] 12:29 AM
   Penicillin G potassium - [**2100-8-7**] 04:50 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2100-8-6**] 09:05 AM
   Midazolam (Versed) - [**2100-8-6**] 09:10 AM
   Fentanyl - [**2100-8-6**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-7**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (43 - 164) bpm
   BP: 100/38(53) {64/17(28) - 119/39(57)} mmHg
   RR: 24 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 320 (6 - 347)mmHg
   Total In:
                                                                  5,718 mL
                                                                  1,168 mL
   PO:
   TF:
                                                                    852 mL
                                                                    250 mL
   IVF:
                                                                  2,929 mL
                                                                    418 mL
   Blood products:
                                                                    687 mL
   Total out:
                                                                    745 mL
                                                                    195 mL
   Urine:
                                                                    745 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,973 mL
                                                                    973 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 100%
   ABG: 7.27/41/101/17/-7
   Ve: 15.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, increased peeling, perioral lesions
   Neurologic: sedated, not arousable to voice or pain, moves all ext in
   response to pain stimuli, no corneal or pupil reflexes
   Labs / Radiology
   105 K/uL
   9.3 g/dL
   mg/dL
   mg/dL
   mEq/L
   mEq/L
   mg/dL
   mEq/L
   mEq/L
   28.4 %
   14.2 K/uL
        [image002.jpg]
   143
                               [image004.gif]
                                     118
                               [image004.gif]
                                     110
   [image006.gif]
   128
                                                                   AGap=11
   [image007.gif]
   3.8
                               [image004.gif]
                                     18
                               [image004.gif]
                                     3.0
   [image009.gif]
                             [**2100-8-5**]  09:10 AM
                             [**2100-8-5**]  03:51 PM
                             [**2100-8-5**]  04:14 PM
                             [**2100-8-6**]  05:24 AM
                             [**2100-8-6**]  06:00 AM
                             [**2100-8-6**]  09:25 AM
                             [**2100-8-6**]  03:19 PM
                             [**2100-8-6**]  03:29 PM
                             [**2100-8-6**]  08:21 PM
                             [**2100-8-7**]  06:20 AM
   WBC
   15.0
   14.2
   Hct
   22.3
   22.9
   28.1
   28.4
   Plt
   125
   105
   Cr
   3.0
   3.0
   2.8
   2.9
   TropT
   0.03
   0.04
   TCO2
   21
   21
   22
   20
   Glucose
   105
   107
   124
   124
   Other labs:
   FDP: 10-40
   Ca++:7.3 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Vit B12: 474
   Folate 4.5
   LDH 203
   Iron: 41
   calTIBC: 99
   Hapto: 156
   Ferritn: 866
   TRF: 76
   Vanc trough : 21
   Micro:
   Blood culture from [**2007-8-3**]: NGTD
   Sputum culture from [**8-3**]: BETA STREPTOCOCCI, NOT GROUP A.    MODERATE
   GROWTH.
   C. diff neg x2
   Urine culture from [**8-3**]: neg
   Imaging:
   CXR (my read): bilateral infiltrate, left worse than right
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and started on dopamine for hypotension.  Transferred to [**Hospital1 1**] for
   management of respiratory failure and hypotension.
   .
   #) SVT: pt was found to be in SVT, most likely AVNRT or AVNT. Pt was
   hemodynamically unstable, SBP in the 70s to 80s despite being on
   levophed. In terms of etiologies of SVT, it is likely secondary to
   infection, volume depletion and levophed which is a beta1 agonist.
   - cardioversion when pt goes back into SVT with hemodynamic instability
   - levophed was changed to neo.
   - per ID, began penicillin G 4 million units IV q 4 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, continue the cipro for gram-negative coverage.
   .
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out non-group A strep and OSH
   sputum was positive with GBS. Unsure whether GBS would give a toxic
   shock syndrome picture and lead to ARDS.  TTE showed normal EF, r/o
   CHF. Patient's smoking history puts him at risk for COPD.  Vasculitis
   in lungs less likely given no blood seen on bronch, stable HCT.
   ANCA/[**Doctor First Name **] are neg.
   - on PC, will decr RR further as pt appears to have autoPEEP and not
   able to breath out completely, and repeat ABG
   - per ID, began penicillin G 4 million units IV q 4 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, continue the cipro for gram-negative coverage.
   - on acyclovir for HSV infection
   - f/u cultures
   - f/u on ID recs
   .
   #) sepsis: Pt meets the criteria for sepsis. The source of infection is
   likely pulmonary given CXR and CT evidence of LLL pneumonia. Other
   source of infection includes GI but no evidence of GI infection at this
   time, no diarrhea noted. KUB on [**8-3**] showed small amount of
   pericholecystic fluid, but no cholecystitis was seen. However, given pt
   is intermittently hypotensive, it is possible that pt has some degree
   of bowel ischemia leading to bacteremia. UA was negative. Pt has a
   coccyx ulcer but the wound does not appear infected. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so wouldn
t get at CT sinus at this point.
   - per ID, began penicillin G 4 million units IV q 4 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, continue the cipro for gram-negative coverage.
   - Discontinued vancomycin, cefepime, and flagyl.
   - restarted acyclovir 10 mg/kg IV q 8 hours for empiric therapy.
   - f/u on Lyme IgG/IgM Antibody; Anaplasma phagocytophilum (human
   granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Blood Smear For Parasites;
   Babesia Antibodies, IgG and IgM; Parvovirus B19 Antibodies; Varicella
   zoster Antibody, IgM; Herpes 6 PCR
   - continue to monitor, goal MAP>65, UOP>30cc/hr, CVP >[**8-30**] and ScvO2
   >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdoment if pt does not improve
   .
   #) Hypotension: Likely [**12-21**] sepsis from underlying lung infection.
   Currently on neo.
   - changed levophed to neo in the setting of SVT with hemodynamic
   instability
   - continue to treat underlying infection
   - monitor UOP, MAP, CVP
   - f/u cultures
   .
   #) Acid/base disturbances: gap closed. Continues to mild non-anion gap
   metabolic acidosis, likely secondary to hyperchloremic metabolic
   acidosis.
   - give LR instead of NS if giving IVF
   .
   #) Anemia: Hct has been trending down, received 2u pRBC yesterday. On
   admission Hct was 31.4. DDx includes GIB given he was guaiac positive,
   anemia of chronic disease / inflammation or DAH given CXR infiltrate.
   Fe studies revealed anemia of chronic disease/inflammation. B12 and
   folate are normal. No evidence of hemolysis or DIC at this point.
   Patient also has renal failure which also contributes to his anemia.
   - pt received 2u pRBC yesterday, Hct appropriately bumped. Goal Hct >30
   as he has SVT
   - guaiac all stools
   - continue to monitor
   .
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin rash
   - on clindamycin to inhibit toxin production
   - re-started acyclovir per ID
   - per derm, pt was started on triamcinolone ointment [**Hospital1 **] for skin rash
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - d/c
d steroids per derm
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Renal Failure:  Cr trending up 1.9---3.0. Most likely [**12-21**] ATN from
   hypotension from sepsis. Vasculitis is less likely given neg [**Doctor First Name **] and
   ANCA, but if renal function continues to worsen would consider that
   possibility given his picture of respiratory failure, renal failure,
   vasculitic skin lesions and anemia.
   - renally dose medications
   - repeat UA urine lytes, consider renal consult if renal function
   continues to worse
   .
   #) Altered mental status: Likely [**12-21**] sedation and prolonged sepsis.
   Currently, sedated, no corneal or pupil reflexes, however pt does move
   extremities to pain. CT head was negative for any intracranial process.
   -neuro exam when sedation is lightened
   -continue thiamine
   .
   #) Hypernatremia: Resolved. Likely [**12-21**] volume depletion during
   diuresis.
   - continue  free water flushes to 250cc q3h
   - continue to monitor
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: this morning was in SVT (AVRT or AVNRT), was
   condioverted
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - update family
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-6**] 11:48 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: continue ICU care

2100-08-07 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Throat cancer
   Rash
   Resp failure due to pna
   24 Hour Events:
   SVT developed yesterday
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-6**] 09:15 AM
   50 j
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-6**] 09:20 AM
   50 j
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-6**] 12:53 PM
   50 j
 CARDIOVERSION/DEFIBRILLATION - At [**2100-8-7**] 03:45 AM
   SVT 150's---50J
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-8-5**] 08:11 PM
   Cefipime - [**2100-8-6**] 11:05 AM
   Metronidazole - [**2100-8-6**] 05:07 PM
   Ciprofloxacin - [**2100-8-6**] 08:06 PM
   Acyclovir - [**2100-8-6**] 10:03 PM
   Clindamycin - [**2100-8-7**] 12:29 AM
   Penicillin G potassium - [**2100-8-7**] 04:50 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2100-8-6**] 09:05 AM
   Midazolam (Versed) - [**2100-8-6**] 09:10 AM
   Fentanyl - [**2100-8-6**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-7**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (43 - 164) bpm
   BP: 100/38(53) {64/17(28) - 119/39(57)} mmHg
   RR: 24 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 320 (6 - 346)mmHg
   Total In:
                                                                  5,718 mL
                                                                  1,237 mL
   PO:
   TF:
                                                                    852 mL
                                                                    283 mL
   IVF:
                                                                  2,929 mL
                                                                    453 mL
   Blood products:
                                                                    687 mL
   Total out:
                                                                    745 mL
                                                                    195 mL
   Urine:
                                                                    745 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,973 mL
                                                                  1,042 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PC 20/12
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.28/34/101/18/-9
   Ve: 14.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Intubated, sedated, unresponsive
   Diffuse rash
   Hrt rrr
   Lung distant bs
s, no wheezes
   Abd benign
   Extrem non edema
   Labs / Radiology
   9.3 g/dL
   105 K/uL
   128 mg/dL
   3.0 mg/dL
   18 mEq/L
   3.8 mEq/L
   110 mg/dL
   118 mEq/L
   143 mEq/L
   28.4 %
   14.2 K/uL
        [image002.jpg]
                             [**2100-8-5**]  03:51 PM
                             [**2100-8-5**]  04:14 PM
                             [**2100-8-6**]  05:24 AM
                             [**2100-8-6**]  06:00 AM
                             [**2100-8-6**]  09:25 AM
                             [**2100-8-6**]  03:19 PM
                             [**2100-8-6**]  03:29 PM
                             [**2100-8-6**]  08:21 PM
                             [**2100-8-7**]  06:20 AM
                             [**2100-8-7**]  07:41 AM
   WBC
   15.0
   14.2
   Hct
   22.3
   22.9
   28.1
   28.4
   Plt
   125
   105
   Cr
   3.0
   3.0
   2.8
   2.9
   3.0
   TropT
   0.03
   0.04
   TCO2
   21
   22
   20
   17
   Glucose
   105
   107
   124
   124
   128
   Other labs: PT / PTT / INR:13.9/42.6/1.2, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:28/20, Alk Phos / T Bili:118/0.5,
   Amylase / Lipase:/35, Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.1
   %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.7
   mg/dL
   CXR slightly worse bibasilar infiltrates
   Assessment and Plan
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 has pads on, follow, cardiovert
   as needed
 shock
 cont neo, wean as tolerated
 RASH
 supportive care, unclear cause
   pneumonia / resp failure
 vent requirements remain high, cont abx,
   wean vent as tolerated
   ARF
 stable over past 2 days, follow
   Throat cancer
 inactive issue
   COPD
 cont bronchodilators
   HSV
 cont acyclovir
   Anemia
 transfused yesterday, follow
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-6**] 11:48 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :   ICU
   Total time spent:  37

2100-08-08 07:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Stable overnight
   24 Hour Events:
 NASAL SWAB - At [**2100-8-7**] 10:00 PM
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-8-5**] 08:11 PM
   Cefipime - [**2100-8-6**] 11:05 AM
   Metronidazole - [**2100-8-6**] 05:07 PM
   Acyclovir - [**2100-8-6**] 10:03 PM
   Ciprofloxacin - [**2100-8-7**] 01:44 PM
   Clindamycin - [**2100-8-7**] 04:17 PM
   Penicillin G potassium - [**2100-8-8**] 04:08 AM
   Infusions:
   Fentanyl (Concentrate) - 30 mcg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-8**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-8**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 67 (62 - 74) bpm
   BP: 108/39(55) {90/33(48) - 122/42(60)} mmHg
   RR: 24 (21 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 62 kg
             Total In:
                                                                  4,523 mL
                                                                  1,279 mL
   PO:
             TF:
                                                                    843 mL
                                                                    267 mL
   IVF:
                                                                  1,930 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  1,196 mL
                                                                     95 mL
   Urine:
                                                                    396 mL
                                                                     95 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  3,327 mL
                                                                  1,184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PC 20/12
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: 7.27/35/106/17/-9
   Ve: 13.5 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   121 K/uL
   124 mg/dL
   3.2 mg/dL
   17 mEq/L
   3.8 mEq/L
   121 mg/dL
   112 mEq/L
   138 mEq/L
   28.3 %
   12.4 K/uL
        [image002.jpg]
                             [**2100-8-6**]  06:00 AM
                             [**2100-8-6**]  09:25 AM
                             [**2100-8-6**]  03:19 PM
                             [**2100-8-6**]  03:29 PM
                             [**2100-8-6**]  08:21 PM
                             [**2100-8-7**]  06:20 AM
                             [**2100-8-7**]  07:41 AM
                             [**2100-8-7**]  02:33 PM
                             [**2100-8-8**]  04:14 AM
                             [**2100-8-8**]  04:41 AM
   WBC
   14.2
   12.4
   Hct
   28.1
   28.4
   28.3
   Plt
   105
   121
   Cr
   2.8
   2.9
   3.0
   3.2
   TropT
   0.03
   0.04
   TCO2
   22
   20
   17
   17
   17
   Glucose
   124
   124
   128
   124
   Other labs: PT / PTT / INR:15.8/34.0/1.4, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:20/20, Alk Phos / T Bili:159/0.5,
   Amylase / Lipase:/35, Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.1
   %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:228 IU/L, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.4
   mg/dL
   CXR some improvement in L>R basilar opacities
   Assessment and Plan
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 has pads on, follow, cardiovert
   as needed
 shock
 pressor needs improved over past 24 hours, cont neo, wean as
   tolerated
 RASH
 supportive care, unclear cause
   pneumonia / resp failure
 vent requirements remain high, cont abx,
   wean vent as tolerated
   ARF
 slowly worsening
   Throat cancer
 inactive issue
   COPD
 cont bronchodilators
   HSV
 cont acyclovir
   Anemia
 transfused yesterday, follow
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-7**] 10:28 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2100-08-08 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2100-8-7**] 10:00 PM
   - ID recs: continue clinda, penicillin, cipro, acyclovir
   - sent respiratory HSV and viral cultures
   - derm recs: Consider d/c cefipime, continue topical steroids for
   symptomatic relief, this rash will desquamate as part of it's normal
   evolution
   - continued on PC
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-8-5**] 08:11 PM
   Cefipime - [**2100-8-6**] 11:05 AM
   Metronidazole - [**2100-8-6**] 05:07 PM
   Acyclovir - [**2100-8-6**] 10:03 PM
   Ciprofloxacin - [**2100-8-7**] 01:44 PM
   Clindamycin - [**2100-8-7**] 04:17 PM
   Penicillin G potassium - [**2100-8-8**] 04:08 AM
   Infusions:
   Fentanyl (Concentrate) - 30 mcg/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-8**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-8**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 67 (62 - 74) bpm
   BP: 108/39(55) {90/33(48) - 122/42(60)} mmHg
   RR: 24 (21 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 62 kg
             Total In:
                                                                  4,523 mL
                                                                  1,259 mL
   PO:
             TF:
                                                                    843 mL
                                                                    259 mL
   IVF:
                                                                  1,930 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  1,196 mL
                                                                     95 mL
   Urine:
                                                                    396 mL
                                                                     95 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  3,327 mL
                                                                  1,164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: 7.27/35/106/17/-9
   Ve: 13.5 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, increased peeling, perioral lesions
   Neurologic: sedated, not arousable to voice or pain, moves all ext in
   response to pain stimuli, no corneal or pupil reflexes
   Labs / Radiology
   121 K/uL
   9.4 g/dL
   124 mg/dL
   3.2 mg/dL
   17 mEq/L
   3.8 mEq/L
   121 mg/dL
   112 mEq/L
   138 mEq/L
   28.3 %
   12.4 K/uL
        [image002.jpg]
                             [**2100-8-6**]  06:00 AM
                             [**2100-8-6**]  09:25 AM
                             [**2100-8-6**]  03:19 PM
                             [**2100-8-6**]  03:29 PM
                             [**2100-8-6**]  08:21 PM
                             [**2100-8-7**]  06:20 AM
                             [**2100-8-7**]  07:41 AM
                             [**2100-8-7**]  02:33 PM
                             [**2100-8-8**]  04:14 AM
                             [**2100-8-8**]  04:41 AM
   WBC
   14.2
   12.4
   Hct
   28.1
   28.4
   28.3
   Plt
   105
   121
   Cr
   2.8
   2.9
   3.0
   3.2
   TropT
   0.03
   0.04
   TCO2
   22
   20
   17
   17
   17
   Glucose
   124
   124
   128
   124
   Other labs:
   PT / PTT / INR:15.8/34.0/1.4
   ALT / AST:20/20, Alk Phos / T Bili:159/0.5, Amylase / Lipase:/35,
   Albumin:2.4 g/dL, LDH:228 IU/L
   Lactic Acid:1.7 mmol/L
   Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Micro:
   Blood culture from [**2007-8-3**]: NGTD
   Sputum culture from [**8-3**]: BETA STREPTOCOCCI, NOT GROUP A.    MODERATE
   GROWTH.
   C. diff neg x2
   Urine culture from [**8-7**]: pending
   Lyme serologies pending
   ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA [**Doctor Last Name **]) IGG/IGM:
   pending
   BABESIA ANTIBODIES, IGG AND IGM: pending
   HERPES 6 DNA PCR, QUANTITATIVE: pending
   HERPES SIMPLEX (HSV) 1, IGG: pending
   HERPES SIMPLEX (HSV) 2, IGG: pending
   HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY IGM: pending
   PARVOVIRUS B19 ANTIBODIES (IGG & IGM): pending
   VARICELLA ZOSTER ANTIBODY, IGM: pending
   Imaging:
   CXR (my read): stable LLL consolidation and right sided linear
   infiltrate
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and started on dopamine for hypotension.  Transferred to [**Hospital1 1**] for
   management of respiratory failure, and now in multi-organ failure
   (pulm, cardiac/SVT, renal, derm)
   .
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out non-group A strep and OSH
   sputum was positive with GBS. Unsure whether GBS would give a toxic
   shock syndrome picture and lead to ARDS.  TTE showed normal EF, r/o
   CHF. Patient's smoking history puts him at risk for COPD.  Vasculitis
   in lungs less likely. ANCA/[**Doctor First Name **] are neg.
   - on PC currently, will change back to AC today and see if he tolerates
   it. Get ABG to monitor respiratory status.
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, and cipro for gram-negative coverage.
   - continue acyclovir for HSV infection, as per ID this presentation
   could represent HSV generalized infection
   - f/u cultures
   - f/u on ID recs
   .
   #) sepsis: Pt meets the criteria for sepsis. However, WBC trending
   down, and fever curve going down as well. The source of infection is
   likely pulmonary given CXR and CT evidence of LLL pneumonia. Other
   source of infection includes GI but no evidence of GI infection at this
   time, no diarrhea noted. KUB on [**8-3**] showed small amount of
   pericholecystic fluid, but no cholecystitis was seen. However, given pt
   is intermittently hypotensive, it is possible that pt has some degree
   of bowel ischemia leading to bacteremia. UA was negative. Pt has a
   coccyx ulcer but the wound does not appear infected. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so wouldn
t get at CT sinus at this point.
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, and cipro for gram-negative coverage.
   - continue acyclovir for HSV infection
   - f/u on Lyme IgG/IgM Antibody; Anaplasma phagocytophilum (human
   granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Blood Smear For Parasites;
   Babesia Antibodies, IgG and IgM; Parvovirus B19 Antibodies; Varicella
   zoster Antibody, IgM; Herpes 6 PCR
   - continue to monitor, goal MAP>65, UOP>30cc/hr, CVP >[**8-30**] and ScvO2
   >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdoment if pt does not improve
   .
   #) Hypotension: Likely [**12-21**] sepsis from underlying lung infection.
   Currently on neo.
   - changed levophed to neo in the setting of SVT with hemodynamic
   instability
   - continue to treat underlying infection
   - monitor UOP, MAP, CVP
   - f/u cultures
   .
   #) SVT: didn
t have another episode during the past 24 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - cardioversion when pt goes back into SVT with hemodynamic instability
   - levophed was changed to neo.
   - per ID, began penicillin G 4 million units IV q 4 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, continue the cipro for gram-negative coverage.
   .
   #) Acid/base disturbances: gap closed. Continues to mild non-anion gap
   metabolic acidosis, likely secondary to hyperchloremic metabolic
   acidosis and acute on chronic renal failure.
   - give LR instead of NS if giving IVF
   .
   #) Anemia: Hct stable, received 2u pRBC on [**8-6**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - continue to monitor, goal Hct >30 as he has SVT
   .
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin rash
   - on clindamycin to inhibit toxin production
   - re-started acyclovir per ID
   - per derm, pt was started on triamcinolone ointment [**Hospital1 **] for skin rash
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - d/c
d steroids per derm
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Renal Failure:  Cr trending up 1.9---3.2. Most likely [**12-21**] ATN from
   hypotension from sepsis. Vasculitis is less likely given neg [**Doctor First Name **] and
   ANCA, but if renal function continues to worsen would consider that
   possibility given his picture of respiratory failure, renal failure,
   vasculitic skin lesions and anemia.
   - as pt has lots of insensible fluid loss from skin rash, and  will
   aggressively resuscitate with LR today
   - renally dose medications
   - repeat UA urine lytes, consider renal consult if renal function
   continues to worse
   .
   #) Altered mental status: Likely [**12-21**] sedation and prolonged sepsis.
   Currently, sedated, no corneal or pupil reflexes, however pt does move
   extremities to pain. CT head was negative for any intracranial process.
   -neuro exam when sedation is lightened
   -continue thiamine
   .
   #) Hypernatremia: Resolved. Likely [**12-21**] volume depletion during
   diuresis.
   - change  free water flushes from 250cc q3h to 250cc q6h
   - continue to monitor
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - Need to have a family discussion in the coming week to further
   clarify goals of care, and update the family on patient status.
   Currently stable but low hope to recover to baseline
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-7**] 10:28 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: family. Need to have a family discussion in
   the coming week to further clarify goals of care, and update the family
   on patient status. Currently stable but low hope to recover to baseline
   Code status: FULL
   Disposition: continue ICU care

2100-08-09 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - derm recs: petechial rash liely [**12-21**] extravasation from stasis. rash
   may be result of drug reaction, a psoriasis flare from an infection or
   GBS infection -> either way, nothing different to do to change his
   prognosis at this point
   - changed to AC -> ABG pH7.27 pCO2 34 pO2 128 HCO3 16
   FiO2%:40; Rate:25/0; TV:550; PEEP:10
   - ID recs: d/c Vanc, add doxy, no need to put pt on droplet precaution
   as we're only getting HSV culture, check anaplasma (already ordered)
   and RMSF.
   - fluids (LR) 1L bolus, and 125cc/hr maintanence, then 500cc LR
   - free water flushes changed to q6h
   - updated family- pt is DNR, cardioversion for SVT is ok, will have
   family mtg on tues
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2100-8-6**] 05:07 PM
   Ciprofloxacin - [**2100-8-8**] 03:05 PM
   Acyclovir - [**2100-8-8**] 10:24 PM
   Penicillin G potassium - [**2100-8-9**] 04:14 AM
   Clindamycin - [**2100-8-9**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 30 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Phenylephrine - 4.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-9**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-9**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 68 (64 - 73) bpm
   BP: 97/30(48) {77/27(40) - 135/46(62)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 62 kg
    CVP: 11 (9 - 11)mmHg
   Total In:
                                                                  5,328 mL
                                                                    827 mL
   PO:
   TF:
                                                                    141 mL
   IVF:
                                                                  4,437 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                    714 mL
                                                                    346 mL
   Urine:
                                                                    474 mL
                                                                    346 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                  4,614 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/31/95.[**Numeric Identifier **]/15/-9
   Ve: 13.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, worsening, petichial rash on back and dependent
   areas, perioral lesions
   Neurologic: sedated, not arousable to voice or pain
   Labs / Radiology
   111 K/uL
   8.9 g/dL
   119 mg/dL
   3.4 mg/dL
   15 mEq/L
   3.9 mEq/L
   111 mg/dL
   108 mEq/L
   133 mEq/L
   26.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2100-8-6**]  03:29 PM
                             [**2100-8-6**]  08:21 PM
                             [**2100-8-7**]  06:20 AM
                             [**2100-8-7**]  07:41 AM
                             [**2100-8-7**]  02:33 PM
                             [**2100-8-8**]  04:14 AM
                             [**2100-8-8**]  04:41 AM
                             [**2100-8-8**]  10:45 AM
                             [**2100-8-9**]  03:13 AM
                             [**2100-8-9**]  03:27 AM
   WBC
   14.2
   12.4
   10.7
   Hct
   28.1
   28.4
   28.3
   26.2
   Plt
   105
   121
   111
   Cr
   3.0
   3.2
   3.4
   TCO2
   20
   17
   17
   17
   16
   16
   Glucose
   128
   124
   119
   Other labs:
   PT / PTT / INR:16.0/36.2/1.4,
   ALT / AST:24/26, Alk Phos / T Bili:180/0.5, Amylase / Lipase:/35,
   Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Blood culture from [**2010-8-2**]: NGTD
   Sputum culture from [**8-3**]: BETA STREPTOCOCCI, NOT GROUP A.    MODERATE
   GROWTH.
   C. diff neg x2
   Urine culture from [**8-7**]: pending
   Lyme serologies pending
   ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA [**Doctor Last Name **]) IGG/IGM:
   pending
   BABESIA ANTIBODIES, IGG AND IGM: pending
   HERPES 6 DNA PCR, QUANTITATIVE: pending
   HERPES SIMPLEX (HSV) 1, IGG: pending
   HERPES SIMPLEX (HSV) 2, IGG: pending
   HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY IGM: pending
   PARVOVIRUS B19 ANTIBODIES (IGG & IGM): pending
   VARICELLA ZOSTER ANTIBODY, IGM: pending
   Imaging:
   CXR (my read): LLL infiltrate, worsened fluid on left (blunted left
   costodiaphagmatic angle
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and started on dopamine for hypotension.  Transferred to [**Hospital1 1**] for
   management of respiratory failure, and now in multi-organ failure
   (pulm, cardiac/SVT, renal, derm)
   .
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out non-group A strep and OSH
   sputum was positive with GBS.  TTE showed normal EF, r/o CHF. Patient's
   smoking history puts him at risk for COPD.  Vasculitis in lungs less
   likely- ANCA/[**Doctor First Name **] are neg.
   - on  AC currently today
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS) (day4), clindamycin 900 mg IV q 8 hours (day3) to
   inhibit toxin production, and cipro (day 6) for gram-negative
   coverage.
   - continue acyclovir for HSV infection, as per ID this presentation
   could represent HSV generalized infection
   - added doxy per ID recs
   - f/u cultures here and from OSH
   - if no RMSF from OSH,  d/c doxy
   - f/u on ID recs
   .
   #) sepsis: Pt meets the criteria for sepsis. However, WBC trending
   down, and fever curve going down as well. The source of infection is
   likely pulmonary given CXR and CT evidence of LLL pneumonia. Other
   source of infection includes GI but no evidence of GI infection at this
   time, no diarrhea noted. KUB on [**8-3**] showed small amount of
   pericholecystic fluid, but no cholecystitis was seen. However, given pt
   is intermittently hypotensive, it is possible that pt has some degree
   of bowel ischemia leading to bacteremia. UA was negative. Pt has a
   coccyx ulcer but the wound does not appear infected. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so wouldn
t get at CT sinus at this point.
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, and cipro for gram-negative coverage.
   - continue acyclovir for HSV infection
   - f/u on Lyme IgG/IgM Antibody; Anaplasma phagocytophilum (human
   granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Blood Smear For Parasites;
   Babesia Antibodies, IgG and IgM; Parvovirus B19 Antibodies; Varicella
   zoster Antibody, IgM; Herpes 6 PCR
   - continue to monitor, goal MAP>65, UOP>30cc/hr, CVP >[**8-30**] and ScvO2
   >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdomen if pt does not improve
   .
   #) Hypotension: Likely [**12-21**] sepsis from underlying lung infection.
   Currently on neo.
   - continue neo in the setting of SVT with hemodynamic instability
   - continue to treat underlying infection
   - monitor UOP, MAP, CVP
   - f/u cultures
   .
   #) SVT: didn
t have another episode during the past 24 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - levophed was changed to neo.
   .
   #) Acid/base disturbances: gap closed. Continues to mild non-anion gap
   metabolic acidosis, likely secondary to hyperchloremic metabolic
   acidosis and acute on chronic renal failure.
   - give LR instead of NS if giving IVF
   .
   #) Anemia: Hct stable, received 2u pRBC on [**8-6**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - continue to monitor, goal Hct >30 as he has SVT
   .
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin rash. Per derm, this is either GBS,
   generalized pustulosis (benign drug reaction) or perhaps flare of
   psoriasis.
   - on clindamycin to inhibit toxin production
   - re-started acyclovir per ID
   - per derm, pt was started on triamcinolone ointment [**Hospital1 **] for skin rash
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - d/c
d steroids per derm
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Renal Failure:  Cr trending up 1.9---3.2. Most likely [**12-21**] ATN from
   hypotension from sepsis. Vasculitis is less likely given neg [**Doctor First Name **] and
   ANCA, but if renal function continues to worsen would consider that
   possibility given his picture of respiratory failure, renal failure,
   vasculitic skin lesions and anemia.
   - as pt has lots of insensible fluid loss from skin rash, and  will
   aggressively resuscitate with LR today
   - renally dose medications
   - consider renal consult if renal function continues to worse
   .
   #) Altered mental status: Likely [**12-21**] sedation and prolonged sepsis.
   Currently, sedated, no corneal or pupil reflexes, however pt does move
   extremities to pain. CT head was negative for any intracranial process.
   -neuro exam when sedation is lightened
   -continue thiamine
   .
   #) Hypernatremia: Resolved. Likely [**12-21**] volume depletion during
   diuresis.
   - continue free water flushes 250cc q6h
   - continue to monitor
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - family mtg Tuesday
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, cardioversion is OK
   Disposition: ICU care

2100-08-09 10:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Group A Strep
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient moved to assist control at this time
   -Vanco D/C and Doxy added for possible RMSF
   -Family updated in full and patient move to DNR and consideration for
   withdrawl of care should further worsening be seen in next 24 hours.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2100-8-6**] 11:05 AM
   Metronidazole - [**2100-8-6**] 05:07 PM
   Ciprofloxacin - [**2100-8-8**] 03:05 PM
   Acyclovir - [**2100-8-8**] 10:24 PM
   Penicillin G potassium - [**2100-8-9**] 04:14 AM
   Clindamycin - [**2100-8-9**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 30 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Phenylephrine - 3.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-9**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2100-8-9**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 68 (64 - 73) bpm
   BP: 93/30(47) {77/27(40) - 135/46(62)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 62 kg
   CVP: 11 (9 - 11)mmHg
   Total In:
                                                                  5,328 mL
                                                                    805 mL
   PO:
   TF:
                                                                    141 mL
   IVF:
                                                                  4,437 mL
                                                                    555 mL
   Blood products:
   Total out:
                                                                    714 mL
                                                                    323 mL
   Urine:
                                                                    474 mL
                                                                    323 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                  4,614 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/31/95.[**Numeric Identifier **]/15/-9
   Ve: 13.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : )
   Abdominal: Soft, Non-tender
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, Rash: Peticheae--on back
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   111 K/uL
   119 mg/dL
   3.4 mg/dL
   15 mEq/L
   3.9 mEq/L
   111 mg/dL
   108 mEq/L
   133 mEq/L
   26.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2100-8-6**]  03:29 PM
                             [**2100-8-6**]  08:21 PM
                             [**2100-8-7**]  06:20 AM
                             [**2100-8-7**]  07:41 AM
                             [**2100-8-7**]  02:33 PM
                             [**2100-8-8**]  04:14 AM
                             [**2100-8-8**]  04:41 AM
                             [**2100-8-8**]  10:45 AM
                             [**2100-8-9**]  03:13 AM
                             [**2100-8-9**]  03:27 AM
   WBC
   14.2
   12.4
   10.7
   Hct
   28.1
   28.4
   28.3
   26.2
   Plt
   105
   121
   111
   Cr
   3.0
   3.2
   3.4
   TCO2
   20
   17
   17
   17
   16
   16
   Glucose
   128
   124
   119
   Other labs: PT / PTT / INR:16.0/36.2/1.4, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:24/26, Alk Phos / T Bili:180/0.5,
   Amylase / Lipase:/35, Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.1
   %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:1.6 g/dL, LDH:196 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR-ETT and CVL in good position, large left sided effusion
   suggested by film with reasonable preservation of lung volume with
   suggestion of persistence of modest left sided infiltrate.
   Assessment and Plan
   84 yo male with admission with hypoxemic respiratory failure now
   admitteed to ICU with persistent respiratory failure now complicated by
   persistent sepsis and worsening renal failure with Group B strep found
   in sputum as likely pathogen and may be link with rash with empiric
   treatment for TSS considered reasonable.  He has had continued maximal
   medical therapy and retains a persistent worsening in regards to sepsis
   and with progression of worsening renal failure seen. This remains most
   likely an evolution of hospital acquired pneumonia with subsequent
   sepsis and renal failure with Group B strep infection in pulmonary
   system now.  If this was present at admission is not clear but given
   initial clinical improvement Toxic Shock at admission is certainly less
   likely.
   '
   1)Respiratory Failure-Patient with persistent hypoxemic respiratory
   failure in the setting of pneumonia and small/moderate pleural effusion
   -Continue with A/C support
   -Will maintain FIO2
   -Have reasonable tolerance of volumes at this time
   2)Sepsis-Group B Strep
   -PCN D #4 and Clinda for inhibition of toxin production
   -Acyclovir and Doxycyclin in place with concern for oral lesion and
   possible RMSF
   -Will maintain Levophed support and fluid bolus as needed
   3) SUPRAVENTRICULAR TACHYCARDIA (SVT)-
   -Not recurrent at this time
   4)Renal Failure-
   -Will continue with foley catheter placement
   -Will minimize volume as possible with current sepsis
   -Will need to consider renal replacement therapy and support notn-gap
   acidosis as needed with HCO3-
   -Likely ATN will require continued supportive care.
 HYPERNATREMIA (HIGH SODIUM)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
   ICU Care
   Nutrition: Tube Feeds as goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Extensive discussions with family and
   currently will maintain support with current family wishes and
   medically reasonable will have to continue full interventional
   treatment at this time but will not move to CPR for new catestrophic
   event
specifically CPR as this would represent a change with further
   decrease in any chance of being able to return to previous functional
   status.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2100-08-10 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continues on AC and pressors (5mcg neo)
   - added on 1.2 vasopressin due to low diastolic pressures in the 20s
   (SBP in 100s, but MAP in 40s), will obtain lactate now and at 10PM.  If
   continues (pt has had low diastolic pressures during this admission)
   - lactate: 2.1 and 1.9
   - still low MAPs, given 1000L LR bolus and 500cc LR bolus
   - ID recs: Likely group B strep vs. disseminated HSV.  continue
   acyclovir, penicillin G, clinda, cipro, doxy.  If RMSF serology
   negative, d/c doxy.  If pt decompensates, d/c penicillin and start
   zosyn.
   - derm recs: pustular drug rash appears to be improving.  Some purpura
   noticed on left forearm, does not appear c/w RMSF but awaiting
   serologies.
   - DNR but cardiovert with SVT
   - family meeting Tuesday
   - call our lab to see if can speciate group B strep -> results in AM
   - call [**Hospital1 632**] re: sensitivities -> will add on sensitivities today,
   results back tomorrow; did not send for [**Male First Name (un) **] spotted mountain fever
   - sent out RSMF serology
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-9**] 02:00 PM
   Acyclovir - [**2100-8-9**] 09:13 PM
   Clindamycin - [**2100-8-10**] 12:19 AM
   Penicillin G potassium - [**2100-8-10**] 04:29 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Vasopressin - 1.2 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-10**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-10**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 65 (65 - 74) bpm
   BP: 102/33(50) {77/24(40) - 115/40(56)} mmHg
   RR: 24 (21 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 62 kg
    CVP: 16 (6 - 18)mmHg
   Total In:
                                                                  3,699 mL
                                                                  1,142 mL
   PO:
   TF:
                                                                     35 mL
                                                                    227 mL
   IVF:
                                                                  3,064 mL
                                                                    865 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    545 mL
   Urine:
                                                                    695 mL
                                                                    145 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                  2,874 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   Resistance: 8
   SpO2: 100%
   ABG: 7.26/34/102/13/-10
   Ve: 13.7 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, worsening, petichial rash on back and dependent
   areas, perioral lesions
   Neurologic: sedated, not arousable to voice or pain
   Labs / Radiology
   124 K/uL
   9.0 g/dL
   114 mg/dL
   3.2 mg/dL
   13 mEq/L
   4.4 mEq/L
   110 mg/dL
   107 mEq/L
   131 mEq/L
   26.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2100-8-7**]  07:41 AM
                             [**2100-8-7**]  02:33 PM
                             [**2100-8-8**]  04:14 AM
                             [**2100-8-8**]  04:41 AM
                             [**2100-8-8**]  10:45 AM
                             [**2100-8-9**]  03:13 AM
                             [**2100-8-9**]  03:27 AM
                             [**2100-8-9**]  09:00 PM
                             [**2100-8-10**]  04:01 AM
                             [**2100-8-10**]  04:28 AM
   WBC
   12.4
   10.7
   13.6
   Hct
   28.3
   26.2
   26.6
   Plt
   121
   111
   124
   Cr
   3.2
   3.4
   3.2
   TCO2
   17
   17
   17
   16
   16
   16
   16
   Glucose
   124
   119
   114
   Other labs:
   PT / PTT / INR:16.0/36.2/1.4,
   ALT / AST:26/26, Alk Phos / T Bili:169/0.5, Albumin:1.7 g/dL, LDH:239
   IU/L,
   Lactic Acid:1.9 mmol/L, Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Micro: Blood culture from [**2010-8-3**]: NGTD
   Sputum culture from [**8-3**]: GROUP B STREPTOCOCCI, ERYTHROMYCIN AND
   CLINDAMYCIN sensitivities pending
   C. diff neg x2
   Urine culture from [**8-7**]: NGTD
   LYME IGG/IGM: neg
   PARASITE smear: neg
   ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA [**Doctor Last Name **]) IGG/IGM:
   pending
   BABESIA ANTIBODIES, IGG AND IGM: pending
   HERPES 6 DNA PCR, QUANTITATIVE: pending
   HERPES SIMPLEX (HSV) 1, IGG: pending
   HERPES SIMPLEX (HSV) 2, IGG: pending
   HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY IGM: pending
   PARVOVIRUS B19 ANTIBODIES (IGG & IGM): pending
   VARICELLA ZOSTER ANTIBODY, IGM: pending
   Imaging:
   CXR: bilateral pleural effusion, persistnet left perihilar fullness and
   likely infiltrate
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and started on dopamine for hypotension.  Transferred to [**Hospital1 1**] for
   management of respiratory failure, and now with renal failure as well.
   .
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out GBS.  Patient received
   lots of IVF yesterday for hypotension, and this AM the CXR appeared
   more volume overloaded. TTE showed normal EF, r/o CHF. Patient's
   smoking history puts him at risk for COPD.  Vasculitis in lungs less
   likely- ANCA/[**Doctor First Name **] are neg.
   - on  AC currently, will decrease rate from 24 to 18, and monitor ABG
   to see if ventilation adequate
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS) (day1: [**8-6**]), clindamycin 900 mg IV q 8 hours (day1:
   [**8-6**]) to inhibit toxin production, and cipro (day 1: [**8-3**]) for
   gram-negative coverage.
   - continue acyclovir for HSV infection (day1: [**8-4**]), as per ID this
   presentation could represent HSV generalized infection
   - added doxy per ID recs (day1: [**8-8**]);  if no RMSF from OSH,  d/c doxy
   - f/u cultures here and from OSH
   - f/u on ID recs
   .
   #) sepsis: Pt meets the criteria for sepsis. The source of infection is
   likely pulmonary given CXR and CT evidence of LLL pneumonia. Other
   source of infection includes GI but no evidence of GI infection at this
   time, no diarrhea noted. KUB on [**8-3**] showed small amount of
   pericholecystic fluid, but no cholecystitis was seen. However, given pt
   is intermittently hypotensive, it is possible that pt has some degree
   of bowel ischemia leading to bacteremia. UA was negative. Pt has a
   coccyx ulcer but the wound does not appear infected. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so wouldn
t get at CT sinus at this point.
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production, and cipro for gram-negative coverage.
   - continue acyclovir for HSV infection
   - Lyme IgG/IgM Antibody neg; f/u on RMSF, Anaplasma phagocytophilum
   (human granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Blood Smear For
   Parasites; Babesia Antibodies, IgG and IgM; Parvovirus B19 Antibodies;
   Varicella zoster Antibody, IgM; Herpes 6 PCR
   - continue to monitor, goal SBP>85 (not , UOP>30cc/hr, CVP >[**8-30**] and
   ScvO2 >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdomen if pt does not improve
   .
   #) Hypotension: Likely [**12-21**] sepsis from underlying lung infection.
   Currently on neo and vasopressin.
   - add levophed if continues to be hypotensive after IVF boluses
   - continue to treat underlying infection
   - continue to monitor, goal MAP>65, UOP>30cc/hr, CVP >[**8-30**] and ScvO2
   >70%
   - f/u cultures
   .
   #) Metabolic acidosis: gap 11, albumin 1.7, so continues to have an
   anion gap, likely due to renal failure. Delta delta 0.52, so also has a
   non-anion gap metabolic acidosis, likely secondary to hyperchloremic
   metabolic acidosis.
   - give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr trending up 1.9---3.2. has stablized.  Most
   likely [**12-21**] ATN from hypotension from sepsis. Vasculitis is less likely
   given neg [**Doctor First Name **] and ANCA, but if renal function continues to worsen would
   consider that possibility given his picture of respiratory failure,
   renal failure, vasculitic skin lesions and anemia.
   - as pt has lots of insensible fluid loss from skin rash, and  will
   aggressively resuscitate with LR today
   - renally dose medications
   - consider renal consult if renal function continues to worse
   .
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin rash. Per derm, this is either GBS,
   generalized pustulosis (benign drug reaction) or perhaps flare of
   psoriasis.
   - on clindamycin to inhibit toxin production
   - re-started acyclovir per ID
   - per derm, pt was started on triamcinolone ointment [**Hospital1 **] for skin rash
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - d/c
d steroids per derm
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Hyponatremia: Patient had hypernatremia up to 150, s/p free water
   flushes q6h. now hyponatremic.
   - d/c free water flushes 250cc q6h
   - continue to monitor
   #) SVT: didn
t have another episode during the past 24 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - levophed was changed to neo.
   .
   #) Anemia: Hct stable, received 2u pRBC on [**8-6**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - continue to monitor, goal Hct >30 as he has SVT
   .
   #) Altered mental status: Likely [**12-21**] sedation and prolonged sepsis.
   Currently, sedated, no corneal or pupil reflexes, however pt does move
   extremities to pain. CT head was negative for any intracranial process.
   -neuro exam when sedation is lightened
   -continue thiamine
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - family mtg Tuesday
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-9**] 07:00 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, cardioversion is OK
   Disposition: ICU care

2100-08-10 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with persistent hypotension requiring addition of a second
   pressor
   -ID consult in place and suggested continuation of antibiotics and will
   D/C Doxy if RMSF negative which appears possible but unlikely
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-9**] 02:00 PM
   Acyclovir - [**2100-8-9**] 09:13 PM
   Penicillin G potassium - [**2100-8-10**] 04:29 AM
   Clindamycin - [**2100-8-10**] 08:14 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Vasopressin - 1.2 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-10**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-10**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 64 (64 - 74) bpm
   BP: 98/36(54) {80/24(41) - 115/37(56)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
   CVP: 13 (6 - 18)mmHg
   Total In:
                                                                  3,699 mL
                                                                  1,386 mL
   PO:
   TF:
                                                                     35 mL
                                                                    285 mL
   IVF:
                                                                  3,064 mL
                                                                  1,031 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    620 mL
   Urine:
                                                                    695 mL
                                                                    220 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                  2,874 mL
                                                                    766 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.26/34/102/13/-10
   Ve: 12.2 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Rash: Improved erythema
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
He does withdraw to pain and pupils are equal and
   minimally reactive.
   Labs / Radiology
   9.0 g/dL
   124 K/uL
   114 mg/dL
   3.2 mg/dL
   13 mEq/L
   4.4 mEq/L
   110 mg/dL
   107 mEq/L
   131 mEq/L
   26.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2100-8-7**]  07:41 AM
                             [**2100-8-7**]  02:33 PM
                             [**2100-8-8**]  04:14 AM
                             [**2100-8-8**]  04:41 AM
                             [**2100-8-8**]  10:45 AM
                             [**2100-8-9**]  03:13 AM
                             [**2100-8-9**]  03:27 AM
                             [**2100-8-9**]  09:00 PM
                             [**2100-8-10**]  04:01 AM
                             [**2100-8-10**]  04:28 AM
   WBC
   12.4
   10.7
   13.6
   Hct
   28.3
   26.2
   26.6
   Plt
   121
   111
   124
   Cr
   3.2
   3.4
   3.2
   TCO2
   17
   17
   17
   16
   16
   16
   16
   Glucose
   124
   119
   114
   Other labs: PT / PTT / INR:16.0/36.2/1.4, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:26/26, Alk Phos / T Bili:169/0.5,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.7 g/dL, LDH:239 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-ETT and left sided IJ in good position. Has worsening of
   right sided effusion but some improved aeration in left lower lobe
   region.
   Microbiology: Micro-_Group B strep in sputum--Clinda Sensitivities
   Pending
   Serologies (Tick borne)--pending
   Assessment and Plan
   84 yo male with initial admission with bullous rash to [**Hospital3 1492**]
   now coming to [**Hospital1 1**] with persistent and signfiicant hypoxemic
   respiratory failure with left sided pneumonia now showing some capacity
   to wean ventilator support with some improvement in compliance.  His
   course, however, has been compliacated by Acute Renal Failure--with
   creatinine at likely plateau but with persistent hypotension consistent
   with slow to resolve sepsis.
   1) SHOCK, SEPTIC
Patient has persistent hypotension with CVP=10 on exam
   this morning, he has 2 pressor requirement and no new culture results
   suggesting the primary pulmonary insult is paramount.
   -Cipro/Acyclovir/Clinda/PCN/Doxycycline
   -Neo/Vasopressin in place and may need to add vasopressin
   -Will continue to bolus as needed but given decreased urine output and
   concern for evolution of pleural effusions will bias towards continued
   pressor support
   -He does have ECHO with only mild AI
   -Systolic BP >90 is goal for today
   -Will bolus for CVP <12 which is present this morning
   2)Respiratory Failure-Patient with persistent hypoxia but with improved
   FIO2 requirements.  He has mild respiratory alkalosis.  He does have
   decreased respiratory responsiveness but in the setting of persistent
   metabolic acidosis he will maintain high minute ventilation
   requirement.
   -Will trial decrease in RR to 18 today and recheck ABG
   -Will continue with current FIO2 and trial of decrease in PEEP should
   decrease in RR be tolerated
   -Will continuew tih PCN/Clinda/Cipro/Acyclovir and change to Zosyn for
   clinical worsening
   3)Acute Renal Failure-
   -Patient has had Cr elevation which has actually reached plateau and
   has started to decrease
   -Will look to improve metabolic acidosis with bicarbonate should
   acidemia be significant
   -Will follow urine output going forward to look for recovery
   4)Metabolic Acidosis
Non-gap acidosis and anion gap acidosis is seen
   -Will move to LR for fluild support
   -Will continue to support renal function with adeuquate fluild delivery
   5)Rash
continue with creams per dermatology and do much appreciate
   input in regards to expanding differential diagnosis and considering
   interventions.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:  Will look to minimize sedation as possible today
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2100-08-11 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - At 10PM, SBP noted to be in the 70s despite neo and vasopressine.
   Lactate noted to increase from 1.9 to 2.7 and CVP 8-11, with urine
   output 15-30cc.  IVF boluses given (total 3L LR) and SBP remained low.
   - ABG looked more acidotic, going from 7.24/42/135/19 to
   7.24/32/130/12.  SBP still low, so levophed was added, in addition to
   neo and vasopressin.  The following ABG showed 7.25/28/104/13 with
   lactate 2.4.  Pressures stabilized and neo was successfully weaned.
   - ScvO2 86%, 87%.
   - [**Name (NI) **] son, [**Name (NI) **] [**Name (NI) 8278**], was updated about 10:30pm about the
   worsening sepsis. He came in to talk in the middle of the night, and
   was given further update. Very emotional as he is unsure whether the
   fact that he gave his father two advil caused all this.
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-10**] 01:51 PM
   Acyclovir - [**2100-8-11**] 12:03 AM
   Clindamycin - [**2100-8-11**] 01:07 AM
   Penicillin G potassium - [**2100-8-11**] 04:20 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-11**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-11**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 83 (57 - 88) bpm
   BP: 108/28(44) {77/25(41) - 113/48(68)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
    CVP: 4 (4 - 14)mmHg
   Mixed Venous O2% Sat: 84 - 84
   Total In:
                                                                  7,359 mL
                                                                    452 mL
   PO:
   TF:
                                                                    623 mL
   IVF:
                                                                  6,616 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                    836 mL
                                                                    365 mL
   Urine:
                                                                    436 mL
                                                                    165 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  6,523 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.24/34/103/12/-11
   Ve: 11.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, worsening, petichial rash on back and dependent
   areas, perioral lesions
   Neurologic: sedated, not arousable to voice or pain
   Labs / Radiology
   131 K/uL
   8.5 g/dL
   121 mg/dL
   2.8 mg/dL
   12 mEq/L
   4.6 mEq/L
   102 mg/dL
   103 mEq/L
   128 mEq/L
   25.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2100-8-9**]  03:13 AM
                             [**2100-8-9**]  03:27 AM
                             [**2100-8-9**]  09:00 PM
                             [**2100-8-10**]  04:01 AM
                             [**2100-8-10**]  04:28 AM
                             [**2100-8-10**]  04:28 PM
                             [**2100-8-10**]  09:47 PM
                             [**2100-8-10**]  11:04 PM
                             [**2100-8-11**]  04:07 AM
                             [**2100-8-11**]  05:02 AM
   WBC
   10.7
   13.6
   12.6
   Hct
   26.2
   26.6
   25.3
   Plt
   111
   124
   131
   Cr
   3.4
   3.2
   2.8
   TCO2
   16
   16
   16
   19
   14
   13
   15
   Glucose
   119
   114
   121
   Other labs: PT / PTT / INR:16.0/36.2/1.4, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:26/26, Alk Phos / T Bili:169/0.5,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:239 IU/L, Ca++:6.5 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Micro: Blood culture from [**2010-8-3**]: NGTD
   Sputum culture from [**8-3**]: GROUP B STREPTOCOCCI, ERYTHROMYCIN AND
   CLINDAMYCIN sensitivities pending
   C. diff neg x2
   Urine culture from [**8-7**]: NGTD
   LYME IGG/IGM: neg
   PARASITE smear: neg
   ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA [**Doctor Last Name **]) IGG/IGM:
   pending
   BABESIA ANTIBODIES, IGG AND IGM: pending
   HERPES 6 DNA PCR, QUANTITATIVE: pending
   HERPES SIMPLEX (HSV) 1, IGG: pending
   HERPES SIMPLEX (HSV) 2, IGG: pending
   HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY IGM: pending
   PARVOVIRUS B19 ANTIBODIES (IGG & IGM): pending
   VARICELLA ZOSTER ANTIBODY, IGM: pending
   Imaging:
   CXR ([**2100-8-10**]): bilateral pleural effusion, persistnet left perihilar
   fullness and likely infiltrate
   Assessment and Plan
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status who was improving until Saturday when his mental
   status worsened, and he was intubated for worsening respiratory status
   and hypotension.  Transferred to [**Hospital1 1**] for management of respiratory
   failure.
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out GBS.  Patient received
   lots of IVF yesterday for hypotension, and this AM the CXR appeared
   more volume overloaded. TTE showed normal EF, r/o CHF. Patient's
   smoking history puts him at risk for COPD.  Vasculitis in lungs less
   likely- ANCA/[**Doctor First Name **] are neg.
   - on  AC currently, rate decreasde from 24 to 18, and monitor ABG to
   see if ventilation adequate
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS) (day1: [**8-6**]), clindamycin 900 mg IV q 8 hours (day1:
   [**8-6**]) to inhibit toxin production, and cipro (day 1: [**8-3**]) for
   gram-negative coverage.
   - continue acyclovir for HSV infection (day1: [**8-4**]), as per ID this
   presentation could represent HSV generalized infection
   - added doxy per ID recs (day1: [**8-8**]);  if no RMSF from OSH,  d/c doxy
   - f/u cultures here and from OSH
   - f/u on ID recs
   .
   #) sepsis: The source of infection is likely pulmonary given CXR and CT
   evidence of LLL pneumonia.   Received 3L IVF overnight, with addition
   of levophed due to SBP in the 70s.  Levophed was added and once
   pressures were stabilized, neo was weaned off.
   Other source of infection includes GI but no evidence of GI infection
   at this time, no diarrhea noted. KUB on [**8-3**] showed small amount of
   pericholecystic fluid, but no cholecystitis was seen. However, given pt
   is intermittently hypotensive, it is possible that pt has some degree
   of bowel ischemia leading to bacteremia. UA was negative. Pt has a
   coccyx ulcer but the wound does not appear infected. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so wouldn
t get at CT sinus at this point.
   - treat underlying PNA.  continue penicillin G 4 million units IV q 8
   hours (the drug of choice for GBS), clindamycin 900 mg IV q 8 hours to
   inhibit toxin production, and cipro for gram-negative coverage.
   - continue acyclovir for HSV infection
   - f/u cultures and other infectious panel: Lyme IgG/IgM Antibody neg;
   f/u on RMSF, Anaplasma phagocytophilum (human granulocytic Ehrlichia
   [**Doctor Last Name 23**]) IgG/IgM; Blood Smear For Parasites; Babesia Antibodies, IgG and
   IgM; Parvovirus B19 Antibodies; Varicella zoster Antibody, IgM; Herpes
   6 PCR
   - continue to monitor, goal SBP>85 (not , UOP>30cc/hr, CVP >[**8-30**] and
   ScvO2 >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdomen if pt does not improve
   .
   #) Metabolic acidosis: gap 11, albumin 1.7, so continues to have an
   anion gap, likely due to renal failure. Delta delta 0.52, so also has a
   non-anion gap metabolic acidosis, likely secondary to hyperchloremic
   metabolic acidosis.
   - give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr trending up 1.9---3.2. has stablized.  Most
   likely [**12-21**] ATN from hypotension from sepsis. Vasculitis is less likely
   given neg [**Doctor First Name **] and ANCA, but if renal function continues to worsen would
   consider that possibility given his picture of respiratory failure,
   renal failure, vasculitic skin lesions and anemia.
   - as pt has lots of insensible fluid loss from skin rash, and  will
   aggressively resuscitate with LR today
   - renally dose medications
   - consider renal consult if renal function continues to worse
   .
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin rash. Per derm, this is either GBS,
   generalized pustulosis (benign drug reaction) or perhaps flare of
   psoriasis.
   - derm path from [**Hospital1 **]: c/w hypersensitivity reaction: consider
   drug-induced or viral etiology.  Paraneoplastic syndrome cannot be
   exluded.
   - on clindamycin to inhibit toxin production
   - acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin rash
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h. now hyponatremic.
   - d/c free water flushes 250cc q6h
   - continue to monitor
   #) SVT: didn
t have another episode during the past 48 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - now that levophed restarted, need to monitor
   .
   #) Anemia: Hct stable, received 2u pRBC on [**8-6**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - continue to monitor, goal Hct >30 as he has SVT
   .
   #) Altered mental status: Likely [**12-21**] sedation and prolonged sepsis.
   Currently, sedated, no corneal or pupil reflexes, however pt does move
   extremities to pain. CT head was negative for any intracranial process.
   -neuro exam when sedation is lightened
   -continue thiamine
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - family mtg yesterday: family has a
wait and see
 approach
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-9**] 07:00 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, cardioversion is OK
   Disposition: ICU care

2100-08-11 11:50:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failiure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with worsening hypotension last night refractory to IVF bolus
   and change in pressor the levophed required.
                          History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-10**] 01:51 PM
   Acyclovir - [**2100-8-11**] 12:03 AM
   Penicillin G potassium - [**2100-8-11**] 04:20 AM
   Clindamycin - [**2100-8-11**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-11**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 87 (57 - 88) bpm
   BP: 128/35(56) {77/24(42) - 128/48(68)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
   CVP: 6 (4 - 14)mmHg
   Mixed Venous O2% Sat: 84 - 84
                                Total In:
                                                                  7,359 mL
                                                                    817 mL
   PO:
                                TF:
                                                                    623 mL
   IVF:
                                                                  6,616 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                    836 mL
                                                                  1,055 mL
   Urine:
                                                                    436 mL
                                                                    455 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                  6,523 mL
                                                                   -238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.24/34/103/12/-11
   Ve: 11.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   131 K/uL
   121 mg/dL
   2.8 mg/dL
   12 mEq/L
   4.6 mEq/L
   102 mg/dL
   103 mEq/L
   128 mEq/L
   25.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2100-8-9**]  03:13 AM
                             [**2100-8-9**]  03:27 AM
                             [**2100-8-9**]  09:00 PM
                             [**2100-8-10**]  04:01 AM
                             [**2100-8-10**]  04:28 AM
                             [**2100-8-10**]  04:28 PM
                             [**2100-8-10**]  09:47 PM
                             [**2100-8-10**]  11:04 PM
                             [**2100-8-11**]  04:07 AM
                             [**2100-8-11**]  05:02 AM
   WBC
   10.7
   13.6
   12.6
   Hct
   26.2
   26.6
   25.3
   Plt
   111
   124
   131
   Cr
   3.4
   3.2
   2.8
   TCO2
   16
   16
   16
   19
   14
   13
   15
   Glucose
   119
   114
   121
   Other labs: PT / PTT / INR:16.0/36.2/1.4, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:26/26, Alk Phos / T Bili:169/0.5,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:239 IU/L, Ca++:6.5 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR-Left IJ in good position--similar findings in lower
   lobes/lung fields with effusion and consolidation.
   Microbiology: No new positive results on this mornings rounds
   Assessment and Plan
   84 yo male with admission with diffuse rash initially now to ICU with
   respiratory failure, sepsis and left lower lobe pneumonia.  He has
   evidence of persistent sepsis with recurrent hypotension noted
   overnight but this is in the setting of adjustment in pressor dosing
   rather than associated with elevation in temperature of WBC count which
   would argue for recurrent and severe sepsis.
   1)Respiratory Failure-he has persistent elevation in Ve and FIO2
   requirements leading to continued A/C support required.  We do need to
   see recovery of mental status before any move to spontaneous ventilator
   modes can be considered.
   -Will maintain A/C Support
   2)Sepsis-
   -Cipro/Acyclovir/Clinda/PCN/Doxycycline
   -Vasopressin and Levophed in place
   -Will move to bolus IVF as needed but do have excellent central venous
   saturation.
   3)Renal Failure--Patient with further decrease in creatinine but with
   stable urine output of approximately 450cc/day.  Will continue support
   -Will continue to support hemodynamics
   -Monitor urine output
   -Will consider volume challenge carefully in the setting of persistent
   moderate compromise of renal function.
   4)Rash-
   -Appreciate derm input and have continued with topical treatments as
   described.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SHOCK, SEPTIC
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HYPERNATREMIA (HIGH SODIUM)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition: Tube feeds desired
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed with family during rounds at the
   bedside
very clear that he would not want trach of dialysis and
   prolonged course of chronic dependence upon
machines
 for support of a
   life that would not allow return to full independent life.  In this
   setting we have agreed to continue with full medical treatment, under
   guidance of DNR status for futher cardiac compromise.  We did agree to
   update on status and should the concensus be reached that there was no
   reasonable expectation of any meaningful recovery withdraw of care
   could be considered.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 44 minutes

2100-08-12 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - no derm recs found
   - ID recs: hold the course, d/c cipro continue other abx
   - OSH [**Last Name (un) 206**] shows GBS pansens except tetra
   - TF stopped early AM, bc of high residuals, now restarted
   - off sedation but no improvement on neuro exam so far -> consider CT
   head in AM
   - herpes 6 virus neg
   - [**8-7**] viral screen: HERPES SIMPLEX LIKE CYTOPATHIC EFFECT.
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-11**] 02:00 PM
   Acyclovir - [**2100-8-11**] 11:00 PM
   Clindamycin - [**2100-8-12**] 12:30 AM
   Penicillin G potassium - [**2100-8-12**] 04:19 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-11**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-12**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 80 (79 - 90) bpm
   BP: 96/27(45) {96/23(42) - 129/58(75)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
    CVP: 7 (6 - 12)mmHg
   Total In:
                                                                  2,095 mL
                                                                    498 mL
   PO:
   TF:
                                                                    310 mL
                                                                    245 mL
   IVF:
                                                                  1,455 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    388 mL
   Urine:
                                                                  1,120 mL
                                                                    388 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    375 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/31/150/11/-10
                                     pH
                                    7.28
                                    pCO2
                                     31
                                     pO2
                                     150
                                    HCO3
                                     15
   Ve: 12.4 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse rash, worsening, petichial rash on back and dependent
   areas, perioral lesions
   Neurologic: sedated, not arousable to voice or pain
   Labs / Radiology
   138 K/uL
   7.2 g/dL
   140 mg/dL
   2.9 mg/dL
   11 mEq/L
   4.3 mEq/L
   104 mg/dL
   105 mEq/L
   131 mEq/L
   22.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2100-8-10**]  04:28 AM
                             [**2100-8-10**]  04:28 PM
                             [**2100-8-10**]  09:47 PM
                             [**2100-8-10**]  11:04 PM
                             [**2100-8-11**]  04:07 AM
                             [**2100-8-11**]  05:02 AM
                             [**2100-8-11**]  06:18 PM
                             [**2100-8-11**]  06:28 PM
                             [**2100-8-12**]  04:26 AM
                             [**2100-8-12**]  04:42 AM
   WBC
   12.6
   13.2
   Hct
   25.3
   22.0
   Plt
   131
   138
   Cr
   2.8
   3.0
   2.9
   TCO2
   16
   19
   14
   13
   15
   17
   15
   Glucose
   121
   128
   140
   Other labs:
   Ca++:6.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Micro:
   -Blood culture from [**2010-8-3**]: NGTD
   -Sputum culture from [**8-3**]: GROUP B STREPTOCOCCI, [**Last Name (un) 206**] to penicillin
   -negative viral antigen screen but viral culture pending
   -C. diff neg x2
   -Urine culture from [**8-7**]: NG final
   -positive HSV from perioral lesion
   LYME IGG/IGM: neg
   PARASITE smear: neg
   ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA [**Doctor Last Name **]) IGG/IGM:
   pending
   BABESIA ANTIBODIES, IGG AND IGM: pending
   HERPES SIMPLEX (HSV) 1, IGG: pending
   HERPES SIMPLEX (HSV) 2, IGG: pending
   HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY IGM: pending
   PARVOVIRUS B19 ANTIBODIES (IGG & IGM): pending
   VARICELLA ZOSTER ANTIBODY, IGM: pending
   HERPES 6 DNA PCR, QUANTITATIVE: neg
   Imaging:
   CXR [**8-11**]: Left perihilar and bibasilar areas of parenchymal
   opacification are again demonstrated with apparent slight worsening at
   the right base.
   CXR ([**2100-8-12**]): bilateral pleural effusion, persistnet left perihilar
   fullness and likely infiltrate
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with fever, diffuse desquamating rash, renal failure and
   altered mental status.
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out GBS, pending
   sensitivities.  s/p 3L LR and CXR showing pleural effusions. TTE showed
   normal EF, r/o CHF. Patient's smoking history puts him at risk for
   COPD.
   - on  AC currently, rate decreasd from 24 to 18, and monitor ABG to see
   if ventilation adequate
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS) (day1: [**8-6**]), clindamycin 900 mg IV q 8 hours (day1:
   [**8-6**]) to inhibit toxin production
   - d/c Cipro per ID
   - continue acyclovir for HSV infection (day1: [**8-4**]), as per ID this
   presentation could represent HSV generalized infection
   - added doxy per ID recs (day1: [**8-8**]);  if no RMSF from OSH,  d/c doxy
   - f/u cultures here and from OSH
   - f/u on ID recs
   .
   #) sepsis: The source of infection is likely pulmonary given CXR and CT
   evidence of LLL pneumonia.   Received 3L IVF overnight, with addition
   of levophed due to SBP in the 70s.  Levophed was added and once
   pressures were stabilized, neo was weaned off.  Now on levo and vaso.
   Other source of infection includes GI but no evidence of GI infection
   at this time, no diarrhea noted. KUB on [**8-3**] showed small amount of
   pericholecystic fluid, but no cholecystitis was seen. However, given pt
   is intermittently hypotensive, it is possible that pt has some degree
   of bowel ischemia leading to bacteremia. UA was negative. Pt has a
   coccyx ulcer but the wound does not appear infected. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so wouldn
t get at CT sinus at this point.
   - treat underlying PNA.  continue penicillin G 4 million units IV q 8
   hours (the drug of choice for GBS), clindamycin 900 mg IV q 8 hours to
   inhibit toxin production, and cipro for gram-negative coverage.
   - continue acyclovir for HSV infection
   - f/u cultures and other infectious panel: Lyme IgG/IgM Antibody neg;
   f/u on RMSF, Anaplasma phagocytophilum (human granulocytic Ehrlichia
   [**Doctor Last Name 23**]) IgG/IgM; Blood Smear For Parasites; Babesia Antibodies, IgG and
   IgM; Parvovirus B19 Antibodies; Varicella zoster Antibody, IgM; Herpes
   6 PCR
   - continue to monitor, goal SBP>85 (not , UOP>30cc/hr, CVP >[**8-30**] and
   ScvO2 >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdomen if pt does not improve
   .
   #) Metabolic acidosis: gap 11, albumin 1.7, so continues to have an
   anion gap, likely due to renal failure and lactic acidosis. Also
   history of non-anion gap metabolic acidosis, likely secondary to
   hyperchloremic metabolic acidosis from IVF.
   - give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr trending up 1.9---3.2
2.8.  Most likely [**12-21**] ATN
   from hypotension from sepsis.
   - support blood pressure for proper profusion of kidneys
   - as pt has lots of insensible fluid loss from skin rash, and  will
   aggressively resuscitate with LR today
   - renally dose medications
   - consider renal consult if renal function continues to worse
   .
   #) Rash: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin rash. Per derm, this is either GBS,
   generalized pustulosis (benign drug reaction) or perhaps flare of
   psoriasis.
   - derm path from [**Hospital1 **]: c/w hypersensitivity reaction: consider
   drug-induced or viral etiology.  Paraneoplastic syndrome cannot be
   exluded.
   - on clindamycin to inhibit toxin production
   - acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin rash
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h. now hyponatremic with Na of 128..
   - d/c free water flushes 250cc q6h
   - continue to monitor
   #) SVT: didn
t have another episode during the past 48 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - now that levophed restarted, need to monitor
   .
   #) Anemia: Hct stable, received 2u pRBC on [**8-6**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - continue to monitor, goal Hct >30 as he has SVT
   .
   #) Altered mental status: Stable.  Likely [**12-21**] sedation and prolonged
   sepsis.  Currently, sedated, no corneal or pupil reflexes, however pt
   does move extremities to pain. CT head was negative for any
   intracranial process.
   -neuro exam when sedation is lightened
   -continue thiamine
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - family mtg yesterday: family has a
wait and see
 approach
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-11**] 11:39 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, cardioversion is OK
   Disposition: ICU care
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-11**] 02:00 PM
   Acyclovir - [**2100-8-11**] 11:00 PM
   Clindamycin - [**2100-8-12**] 12:30 AM
   Penicillin G potassium - [**2100-8-12**] 04:19 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-11**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 80 (79 - 90) bpm
   BP: 96/27(45) {96/23(42) - 129/58(75)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
    CVP: 7 (6 - 12)mmHg
   Total In:
                                                                  2,095 mL
                                                                    502 mL
   PO:
   TF:
                                                                    310 mL
                                                                    248 mL
   IVF:
                                                                  1,455 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    388 mL
   Urine:
                                                                  1,120 mL
                                                                    388 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    375 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/31/150/11/-10
   Ve: 12.4 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   138 K/uL
   7.2 g/dL
   140 mg/dL
   2.9 mg/dL
   11 mEq/L
   4.3 mEq/L
   104 mg/dL
   105 mEq/L
   131 mEq/L
   22.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2100-8-10**]  04:28 AM
                             [**2100-8-10**]  04:28 PM
                             [**2100-8-10**]  09:47 PM
                             [**2100-8-10**]  11:04 PM
                             [**2100-8-11**]  04:07 AM
                             [**2100-8-11**]  05:02 AM
                             [**2100-8-11**]  06:18 PM
                             [**2100-8-11**]  06:28 PM
                             [**2100-8-12**]  04:26 AM
                             [**2100-8-12**]  04:42 AM
   WBC
   12.6
   13.2
   Hct
   25.3
   22.0
   Plt
   131
   138
   Cr
   2.8
   3.0
   2.9
   TCO2
   16
   19
   14
   13
   15
   17
   15
   Glucose
   121
   128
   140
   Other labs: PT / PTT / INR:16.0/36.2/1.4, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:26/26, Alk Phos / T Bili:169/0.5,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:239 IU/L, Ca++:6.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-11**] 11:39 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2100-08-12 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with nasal swab with herpes simplex type cytopathic changes
   from [**8-7**]
   -Sedation discontinued
   History obtained from Medical records
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-11**] 02:00 PM
   Acyclovir - [**2100-8-11**] 11:00 PM
   Penicillin G potassium - [**2100-8-12**] 04:19 AM
   Clindamycin - [**2100-8-12**] 08:10 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-12**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2100-8-12**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 87 (79 - 90) bpm
   BP: 105/30(51) {90/22(38) - 129/58(75)} mmHg
   RR: 24 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
   CVP: 7 (6 - 12)mmHg
   Total In:
                                                                  2,095 mL
                                                                    919 mL
   PO:
   TF:
                                                                    310 mL
                                                                    379 mL
   IVF:
                                                                  1,455 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    588 mL
   Urine:
                                                                  1,120 mL
                                                                    588 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    375 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.28/31/150/11/-10
   Ve: 13.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
He has response to pain this morning, no purposeful
   movement seen, he has what appears to be tripple flexion with all
   stimuli in the lower extremities
   Labs / Radiology
   7.2 g/dL
   138 K/uL
   140 mg/dL
   2.9 mg/dL
   11 mEq/L
   4.3 mEq/L
   104 mg/dL
   105 mEq/L
   131 mEq/L
   22.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2100-8-10**]  04:28 AM
                             [**2100-8-10**]  04:28 PM
                             [**2100-8-10**]  09:47 PM
                             [**2100-8-10**]  11:04 PM
                             [**2100-8-11**]  04:07 AM
                             [**2100-8-11**]  05:02 AM
                             [**2100-8-11**]  06:18 PM
                             [**2100-8-11**]  06:28 PM
                             [**2100-8-12**]  04:26 AM
                             [**2100-8-12**]  04:42 AM
   WBC
   12.6
   13.2
   Hct
   25.3
   22.0
   Plt
   131
   138
   Cr
   2.8
   3.0
   2.9
   TCO2
   16
   19
   14
   13
   15
   17
   15
   Glucose
   121
   128
   140
   Other labs: PT / PTT / INR:16.0/36.2/1.4, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:26/26, Alk Phos / T Bili:169/0.5,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:239 IU/L, Ca++:6.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR-very poor quality film--difficult to visualize tube
   placement, suggestion of bilateral effusions persistent
   Assessment and Plan
   84 yo male with admission with sepsis, respiratory failure, renal
   failure and persistent alteration of mental status despite
   discontinuation of sedating medications.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-_Has persistent high
   requirements but have been able to decrease PEEP through to this
   morning
   -Will move to pressure support trial given spontaneous respiration
   -Continue PEEP at 5 and move to PSV at 15-20
   2)SHOCK, SEPTIC-
   -Infectious source is led by group B strep--with sensitivities note
   seen on BAL specimen and sputum
   -We have new findings of HSV changes in nasal swab from testing
   performed on [**8-7**].  This does raise the question of a generalized HSV
   infection with skin involvement is interesting.  Do have Acyclovir in
   place since [**8-4**] and with persistent compromise will move to empiric
   steroid start at this time with ID service counsel
   -We do have persistent requirements for pressor support
   -PCN G/clindamycin/Doxycycline/Acyclovir all in place
   -Will continue Levophed and Vasopressin
   3)RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-Have seen plateau but
   failure to improve creatinine at this time.  We do have a severe
   metabolic acidosis and will use HCO3- as needed
   Will hold on dialysis at this time given capacity to improve ventilator
   support levels..
   4)ALTERED MENTAL STATUS-
   -some grimace to pain and spontaneous movement noted this morning
   -The problem this morning
is that he has significant concern for
   persistent decorticate posturing
   -CT scan this morning
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-11**] 11:39 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 48 minutes

2100-08-13 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PS trial lasted 45 minutes, but became hypotensive and had to place
   back on AC
   - due to hypotension on pressure support had to increase levo (from
   0.04 to 0.08) and vasopressin (2.4)
   - at midnight, increased levo further to 0.1.  Also gave 1L LR bolus.
   - blood, urine, sputum cultures sent (given hypothermia)
   - d/w ID: HSV treatment.  Cortisol stimulation test, changed acyclovir
   to 300-600mg daily, and consider LP.  Contact precautions for 5 days.
   consider MRI if CT neg.
   - get CT for triple flexion reaction (decorticate response): prelim
   read: 1. No evidence of acute hemorrhage. 2. Extensive vascular
   calcifications. Please note that MRI is more sensitive in detection of
   acute ischemia.
   - at 6AM, Ca was found to be 2.8.  Ionized calcium sent, given calcium
   gluconate 4g IV X 1.  EKG checked.
   Allergies:
   Ibuprofen
   [** **];
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-11**] 02:00 PM
   Acyclovir - [**2100-8-11**] 11:00 PM
   Clindamycin - [**2100-8-13**] 12:05 AM
   Penicillin G potassium - [**2100-8-13**] 04:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-13**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-13**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (80 - 100) bpm
   BP: 126/41(60) {90/18(38) - 126/107(108)} mmHg
   RR: 21 (11 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
    CVP: 302 (4 - 302)mmHg
   Total In:
                                                                  1,940 mL
                                                                    608 mL
   PO:
   TF:
                                                                    842 mL
                                                                    237 mL
   IVF:
                                                                    968 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  1,978 mL
                                                                    370 mL
   Urine:
                                                                  1,278 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -38 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 535) mL
   PS : 16 cmH2O
   RR (Set): 18
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.27/36/267/17/-9
   Ve: 13.2 L/min
   PaO2 / FiO2: 668
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse [**Year (4 digits) 5286**], worsening, petichial [**Year (4 digits) 5286**] on back and dependent
   areas, perioral lesions
   Neurologic: sedated, has some stereotypical decorticate reflexes
   Labs / Radiology
   130 K/uL
   7.1 g/dL
   120 mg/dL
   2.7 mg/dL
   15 mEq/L
   4.3 mEq/L
   107 mg/dL
   105 mEq/L
   132 mEq/L
   21.9 %
   15.0 K/uL
        [image002.jpg]
                             [**2100-8-11**]  04:07 AM
                             [**2100-8-11**]  05:02 AM
                             [**2100-8-11**]  06:18 PM
                             [**2100-8-11**]  06:28 PM
                             [**2100-8-12**]  04:26 AM
                             [**2100-8-12**]  04:42 AM
                             [**2100-8-12**]  02:13 PM
                             [**2100-8-13**]  01:38 AM
                             [**2100-8-13**]  03:31 AM
                             [**2100-8-13**]  06:13 AM
   WBC
   12.6
   13.2
   15.0
   Hct
   25.3
   22.0
   21.9
   Plt
   131
   138
   130
   Cr
   2.8
   3.0
   2.9
   2.7
   TCO2
   15
   17
   15
   16
   16
   17
   Glucose
   121
   128
   140
   120
   Other labs:
   PT / PTT / INR:12.2/29.1/1.0,
   Albumin:1.6 g/dL,
   Ca++:2.8 mg/dL, free Ca 0.97, Mg++:1.3 mg/dL, PO4:4.1 mg/dL
   Micro:
   Nasopharyngeal swab ([**8-7**]): HSV1
   blood cx ([**8-7**] and [**8-13**]): pending
   Urine cx ([**8-13**]): pending
   lyme ([**8-7**]): neg
   sputum cx ([**8-3**]): GBS [**Last Name (un) 206**] to clinda and erythromycin. neg for
   legionella
   c.diff neg x2
   urine legionella antigen ([**8-3**]) neg
   HSV1 and 2 serologies in blood: pos HSV 1 IgG, neg HSV 1 IgM, HSV 2 IgG
   and IgM
   VZV, parvo, babesia, anaplasma and RMSF serologies: pending
   Imaging:
   CXR ([**8-13**]) my read: bilateral pleural effusion, L>R.
   Assessment and Plan
   84 year old male with h/o throat cancer who presented on [**7-24**] to [**Hospital1 **] with respiratory failure, diffuse desquamating [**Hospital1 5286**], renal
   failure and altered mental status.
   #) Respiratory failure: CXR and CT evidence of LLL consolidation,
   consistent with HAP. Sputum culture grew out GBS.  TTE showed normal
   EF, r/o CHF. Patient's smoking history puts him at risk for COPD.  Pt
   has HSV infection from two sources (nasopharynx and lip). This
   respiratory failure could potentially be secondary to generalized HSV
   infection
   - CXR appears slightly better with less infiltrates ([**8-13**])
   - on  AC currently, will attempt to decrease RR and decrease Vt
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS) (day1: [**8-6**]), clindamycin 900 mg IV q 8 hours (day1:
   [**8-6**]) to inhibit toxin production
   - continue acyclovir for HSV infection (day1: [**8-4**]), as per ID this
   presentation could represent HSV generalized infection
   - added doxy per ID recs (day1: [**8-8**]);  if no RMSF from OSH,  d/c doxy
   - f/u cultures
   - f/u on ID recs
   .
   #) sepsis: The source of infection is likely pulmonary given CXR and CT
   evidence of LLL pneumonia.   Other source of infection includes GI but
   no evidence of GI infection at this time, no diarrhea noted. KUB on
   [**8-3**] showed small amount of pericholecystic fluid, but no cholecystitis
   was seen. However, given pt is intermittently hypotensive, it is
   possible that pt has some degree of bowel ischemia leading to
   bacteremia. UA was negative. Pt has a coccyx ulcer but the wound does
   not appear infected. Blood culture has been negative, and TTE on [**8-3**]
   showed no vegetation. No evidence of sinusitis, so wouldn
t get at CT
   sinus at this point.
   - treat underlying PNA.  continue penicillin G 4 million units IV q 8
   hours (the drug of choice for GBS), clindamycin 900 mg IV q 8 hours to
   inhibit toxin production, and cipro for gram-negative coverage.
   - continue acyclovir for HSV infection
   - as HSV could cause adrenalitis, [**Last Name (un) **] stim test done per ID, will f/u
   results-
 neg
   - f/u cultures and other infectious panel: Lyme IgG/IgM Antibody neg;
   f/u on RMSF, Anaplasma phagocytophilum (human granulocytic Ehrlichia
   [**Doctor Last Name 23**]) IgG/IgM; Babesia Antibodies, IgG and IgM; Parvovirus B19
   Antibodies; Varicella zoster Antibody, IgM
   - will aggressively resuscitate with LR
   - wean down pressors as pt has evidence of digital ischemia now
   - continue to monitor, goal SBP>85 (not , UOP>30cc/hr, CVP >[**8-30**] and
   ScvO2 >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdomen if pt does not improve
   .
   #) Metabolic acidosis: pt continues to have an anion gap, likely due to
   renal failure and lactic acidosis. Non-anion gap acidosis significantly
   improved.
   - give LR instead of NS if giving IVF
   - continue to follow renal function and lactate levels
   .
   #) Renal Failure:  Cr stable at 2.9 to 3.0.  Most likely [**12-21**] ATN from
   hypotension from sepsis.
   - support blood pressure for proper perfusion of kidneys
   - as pt has lots of insensible fluid loss from skin [**Last Name (LF) 5286**], [**First Name3 (LF) 116**]
   aggressively resuscitate with LR
   - renally dose medications
   .
   #) [**First Name3 (LF) **]: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin [**First Name3 (LF) 5286**]. Per derm, this is either GBS,
   generalized pustulosis (benign drug reaction) or perhaps flare of
   psoriasis. derm path from [**Hospital1 **]: c/w hypersensitivity reaction:
   consider drug-induced or viral etiology.  Paraneoplastic syndrome
   cannot be exluded.
   - on clindamycin to inhibit toxin production
   - continue acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin [**Hospital1 5286**]
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Altered mental status: Exam revealed some stereotypical decorticate
   reflexes. Unclear whether it is HSV encephalitis. Also likely [**12-21**]
   sedation and prolonged sepsis.
   - CT head x2 were negative for any intracranial process.
   - hold off on MRI for now
   - consider LP after clarification of goals of care
   - continue thiamine
   .
   #) Anemia: Hct stable, received 2u pRBC on [**8-6**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - continue to monitor, goal Hct >30 as he has SVT
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h which was discontinued
   - continue to monitor
   #) SVT: didn
t have another episode during the past 48 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - now that levophed restarted, need to monitor
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - update family
   - will need to watch this weekend, and see if he improves
   - will need to discuss tracheostomy early next week, patient has been
   intubated for 12 days now
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-13**] 04:09 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, cardioversion is OK
   Disposition: ICU care

2100-08-13 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Worsening hypotension overnight
   -HSV found in second site and move to [**Last Name (un) **]-stim and steroid dosing in
   the setting of adrenal impairment
   -Contact precautions in place
   -Head CT done--
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-11**] 02:00 PM
   Acyclovir - [**2100-8-11**] 11:00 PM
   Penicillin G potassium - [**2100-8-13**] 04:10 AM
   Clindamycin - [**2100-8-13**] 08:25 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-13**] 08:25 AM
   Pantoprazole (Protonix) - [**2100-8-13**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-13**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 92 (80 - 100) bpm
   BP: 95/20(36) {92/18(36) - 126/107(108)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
   CVP: 7 (4 - 302)mmHg
   Total In:
                                                                  1,940 mL
                                                                  1,142 mL
   PO:
   TF:
                                                                    842 mL
                                                                    359 mL
   IVF:
                                                                    968 mL
                                                                    693 mL
   Blood products:
   Total out:
                                                                  1,978 mL
                                                                    420 mL
   Urine:
                                                                  1,278 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -38 mL
                                                                    722 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 535) mL
   PS : 16 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.27/36/267/15/-9
   Ve: 10.8 L/min
   PaO2 / FiO2: 668
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   130 K/uL
   120 mg/dL
   2.7 mg/dL
   15 mEq/L
   4.3 mEq/L
   107 mg/dL
   105 mEq/L
   132 mEq/L
   21.9 %
   15.0 K/uL
        [image002.jpg]
                             [**2100-8-11**]  04:07 AM
                             [**2100-8-11**]  05:02 AM
                             [**2100-8-11**]  06:18 PM
                             [**2100-8-11**]  06:28 PM
                             [**2100-8-12**]  04:26 AM
                             [**2100-8-12**]  04:42 AM
                             [**2100-8-12**]  02:13 PM
                             [**2100-8-13**]  01:38 AM
                             [**2100-8-13**]  03:31 AM
                             [**2100-8-13**]  06:13 AM
   WBC
   12.6
   13.2
   15.0
   Hct
   25.3
   22.0
   21.9
   Plt
   131
   138
   130
   Cr
   2.8
   3.0
   2.9
   2.7
   TCO2
   15
   17
   15
   16
   16
   17
   Glucose
   121
   128
   140
   120
   Other labs: PT / PTT / INR:12.2/29.1/1.0, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:26/26, Alk Phos / T Bili:169/0.5,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:1.6 g/dL, LDH:239 IU/L, Ca++:2.8 mg/dL,
   Mg++:1.3 mg/dL, PO4:4.1 mg/dL
   [**Last Name (un) 1398**] Stim
22.3
31.4
   Imaging: Head CT-no acute hemorrhage or mass effect., CXR-ETT at 3cm
   above [**Last Name (un) 8439**], Ogt in position, CVL in good position, pulmonary
   infiltrates
left . right effusion seen
   Microbiology: HSV--HSV-1 in nasal swab
   HSV-1 IgG-pos, IgM-neg
   HSV-2--both negative
   Assessment and Plan
   84 yo male with admission for respiratory failiure, sepsis now
   complicated by persistent hypotension and slow to improve mental
   status.  He has persistent hypotension and has been unable to achieve
   hemodynamic stability which does raise the question of potential
   compromise of adrenal function in the setting of what may be
   disseminated HSV infection.  If this is true then we will have to
   consider steroid replacement therapy which will have to be driven be
   [**Last Name (un) **] stim testing.
   1)Respiratory Failure-_This is secondary to pneumonia with left lower
   lobe involvement which actually has shown some readiographic
   improvement.
   -Will decrease RR to 14 and decrease Vt to 500
   -Do have good improvement in lung mechanics and oxygenation suggested
   -Continue to Rx infectious sources
   2)Sepsis-
   -Patient currently on levophed, vasopressin
   -Will wean pressors at tolerated today---trial fluild bolus today
   liter and move to decrease pressor and repeat until able to wean
   pressors to off.  Will need maintenance fluild if able to stabilize
   -Strep Pneumonia
   --PCN G/Clindamycine
   -HSV/Possible adrenal insufficiency
   -Acyclovir
   -Do not see role for steroid Rx
   3)Renal Failure
Improved non-gap acidosis, urine output improving
   -Will enhance volume status
   4)Altered Mental Status-CT reassuring, some increased movement today
   -Follow exam
   -Minimize sedation
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-13**] 04:09 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 54 minutes

2100-08-14 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2100-8-13**] 08:45 AM
   - received 1u pRBC on [**8-13**]
   - ID recs: if worsening, could d/c PCN and clinda and start cefepime.
   check BAL and nasopharyngeal swab HSV DFA and viral cultures.
   - team decided that as pt appeared improving on PCN and clinda, would
   hold off on changing to cefepime
   - BAL and nasopharyngeal swab HSV DFA and viral cultures sent
   - didn't change vent settings as RT didn't feel comfortable decreasing
   RR or Vt
   - given 2L LR and 1u pRBC in an attempt to decrease pressor requirement
   and keep up with the large insensible loss from skin
   - ordered 150meq bicarb to see if it helps with acidosis and decrease
   pressor requirements. RR increased from 18 to 22 when getting bicarb.
   Allergies:
   Ibuprofen
   [**Month/Year (2) **];
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-11**] 02:00 PM
   Acyclovir - [**2100-8-13**] 10:34 PM
   Clindamycin - [**2100-8-14**] 12:16 AM
   Penicillin G potassium - [**2100-8-14**] 05:55 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-13**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-13**] 11:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-14**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 80 (77 - 97) bpm
   BP: 139/35(58) {94/20(36) - 139/39(59)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
    CVP: 10 (7 - 15)mmHg
   Total In:
                                                                  4,772 mL
                                                                    610 mL
   PO:
   TF:
                                                                    840 mL
                                                                    258 mL
   IVF:
                                                                  3,327 mL
                                                                    352 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,125 mL
                                                                    190 mL
   Urine:
                                                                    925 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,647 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.26/34/109/13/-10
   Ve: 11.7 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse erythematous [**Year (4 digits) 5286**] all over body. Skin oozing fluids all
   over. perioral lesions
   Neurologic: sedated, has some stereotypical decorticate reflexes
   Labs / Radiology
   113 K/uL
   7.5 g/dL
   123 mg/dL
   2.6 mg/dL
   13 mEq/L
   4.2 mEq/L
   112 mg/dL
   107 mEq/L
   136 mEq/L
   22.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2100-8-12**]  04:26 AM
                             [**2100-8-12**]  04:42 AM
                             [**2100-8-12**]  02:13 PM
                             [**2100-8-13**]  01:38 AM
                             [**2100-8-13**]  03:31 AM
                             [**2100-8-13**]  06:13 AM
                             [**2100-8-13**]  03:30 PM
                             [**2100-8-13**]  03:40 PM
                             [**2100-8-14**]  04:30 AM
                             [**2100-8-14**]  04:44 AM
   WBC
   13.2
   15.0
   14.8
   Hct
   22.0
   21.9
   23.8
   22.6
   Plt
   138
   130
   113
   Cr
   2.9
   2.7
   2.7
   2.6
   TCO2
   15
   16
   16
   17
   16
   16
   Glucose
   140
   120
   141
   123
   Other labs:
   PT / PTT / INR:12.3/30.8/1.0,
   Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Micro:
   Nasopharyngeal swab ([**8-7**]): HSV1
   blood cx ([**2017-8-12**]): pending
   Urine cx ([**8-13**]): pending
   Sputum cx ([**8-13**]): pending
   lyme ([**8-7**]): neg
   sputum cx ([**8-3**]): GBS [**Last Name (un) 206**] to clinda and erythromycin. neg for
   legionella
   c.diff neg x2
   urine legionella antigen ([**8-3**]) neg
   HSV1 and 2 serologies in blood: pos HSV 1 IgG, neg HSV 1 IgM, HSV 2 IgG
   and IgM
   VZV, parvo, babesia, anaplasma and RMSF serologies: pending
   Imaing:
   CXR ([**8-14**]): my read: slightly worsening bilateral pleural effusion,
   bilateral infiltrate better
   Assessment and Plan
   84 year old male with h/o throat cancer who was transferred from [**Hospital1 **] to [**Hospital1 1**] with respiratory failure, diffuse desquamating [**Hospital1 5286**],
   renal failure and altered mental status.
   #) Respiratory failure: Initial CXR and CT evidence of LLL
   consolidation, consistent with HAP. Sputum culture grew out GBS.
   Patient has been treated with penicillin G and clinda, and his
   pneumonia is improving on imaging. TTE showed normal EF, r/o CHF.
   Patient's smoking history puts him at risk for COPD.  Pt has HSV
   infection from two sources (nasopharynx and lip). This respiratory
   failure could potentially be secondary to generalized HSV infection,
   the HSV DFA and culture from mini-BAL are pending. The current barriers
   to extubation include altered mental status, severe metabolic acidosis,
   bilateral pleural effusion, and pneumonia which is improving.
   - on  AC currently, RR increased from 18 to 22 in an attempt to blow
   off CO2 when he is being given bicarb
   - continue penicillin G 4 million units IV q 8 hours (the drug of
   choice for GBS) (day1: [**8-6**]), clindamycin 900 mg IV q 8 hours (day1:
   [**8-6**]) to inhibit toxin production
   - continue acyclovir for HSV infection (day1: [**8-4**]), as per ID this
   presentation could represent HSV generalized infection
   - continue doxy (day1: [**8-8**]);  if no RMSF,  will d/c doxy
   - given bicarb (150meq in 1000cc D5W) x1 today, re-check lytes in the
   pm and see if metabolic acidosis improves. If it did, can give another
   dose of bicarb
   - f/u cultures
   - f/u on ID recs
   .
   #) sepsis: The source of infection is likely pulmonary given his
   pneumonia.   Generalized HSV infection is another possibility but is
   less likely.  [**Last Name (un) 1398**] stim was normal. Other source of infection includes
   GI but no evidence of GI infection at this time, no diarrhea noted. KUB
   on [**8-3**] showed small amount of pericholecystic fluid, but no
   cholecystitis was seen. However, given pt is intermittently
   hypotensive, it is possible that pt has some degree of bowel ischemia
   leading to bacteremia. UA was negative. Pt has a coccyx ulcer but the
   wound does not appear infected. Blood culture has been negative, and
   TTE on [**8-3**] showed no vegetation. No evidence of sinusitis, so wouldn
   get at CT sinus at this point.
   - treat underlying PNA.  continue penicillin G 4 million units IV q 8
   hours (the drug of choice for GBS), clindamycin 900 mg IV q 8 hours to
   inhibit toxin production
   - continue acyclovir for HSV infection
   - f/u cultures and other infectious panel: f/u on RMSF, Anaplasma
   phagocytophilum (human granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Babesia
   Antibodies, IgG and IgM; Parvovirus B19 Antibodies; Varicella zoster
   Antibody, IgM
   - will aggressively resuscitate with LR.  wean down pressors as pt has
   evidence of digital ischemia now. Goal MAP 55 (given his very low
   diastolic), although it would still be ideal to get his MAP to 65 to
   adequately perfuse his brain for improvement in mental status
   - hope to decrease his pressor requirements when metabolic acidosis
   improves on bicarb
   - goal I/O at least 1 liter positive as pt has lots of insensible fluid
   loss from skin
   - goal UOP>30cc/hr, CVP >[**8-30**] and ScvO2 >70%
   - follow lactate
   - culture if spikes
   - continue wound care for coccyx ulcer
   - would consider CT abdomen if pt does not improve
   .
   #) Metabolic acidosis: pt continues to have an anion gap, likely due to
   renal failure and lactic acidosis. Non-anion gap acidosis significantly
   improved.
   - give bicarb today, increase RR from 18 to 22  when giving bicarb
   - give LR instead of NS if giving IVF
   - continue to follow renal function and lactate levels
   .
   #) Renal Failure:  Cr slowly improving.   Most likely [**12-21**] ATN from
   hypotension from sepsis.
   - support blood pressure for adequate perfusion of kidneys
   - as pt has lots of insensible fluid loss from skin [**Last Name (LF) 5286**], [**First Name3 (LF) 116**]
   aggressively resuscitate with LR
   - renally dose medications
   .
   #) [**First Name3 (LF) **]: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin [**First Name3 (LF) 5286**]. Per derm, this is either GBS,
   generalized pustulosis (benign drug reaction) or perhaps flare of
   psoriasis. derm path from [**Hospital1 **]: c/w hypersensitivity reaction:
   consider drug-induced or viral etiology.  Paraneoplastic syndrome
   cannot be exluded. Less likely HSV [**Hospital1 5286**], but it it not completely
   impossible.
   - on clindamycin to inhibit toxin production
   - continue acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin [**Hospital1 5286**]
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Altered mental status: Exam revealed some stereotypical decorticate
   reflexes. Unclear whether it is HSV encephalitis. Also likely [**12-21**]
   sedation and prolonged sepsis.
   - CT head x2 were negative for any intracranial process.
   - hold off on MRI for now
   - consider LP after clarification of goals of care
   - adequate blood pressure control for better perfusion of brain (goal
   MAP 65 but it may not be a realistic goal as the diastolic pressure has
   been very low). For now, maintain goal MAP at least 55 with IVF first,
   if still low then up the pressors. Hoping bicarb will help with
   acidosis and decrease pressor requirements and help with blood
   pressure.
   - continue thiamine
   .
   #) Anemia: Hct stable, received 1u pRBC on [**8-13**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - guaiac all stools
   - continue to monitor, goal Hct 21. Transfuse if hct <21
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h which was discontinued
   - continue to monitor
   #) SVT: didn
t have another episode during the past 48 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - now that levophed restarted, need to monitor
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - update family
   - will need to watch this weekend, and see if he improves
   - will need to discuss tracheostomy early next week, patient will have
   been intubated for 2 weeks on Monday
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-13**] 04:09 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, cardioversion is OK
   Disposition: ICU care

2100-08-14 13:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo male with minimal medical history
   Hospitalzed at OSH for probable drug rash- mid-hospitalization
   developed acute respiratory failure/sepsis prompting transfer (GBS
   sepsis)
   GBS pneumonia sepsis/ and HSV
   Multiorgan failure with minimal progress on pressor/vent/AMS (negative
   [**Last Name (un) **] stem)
   24 Hour Events:
 SPUTUM CULTURE - At [**2100-8-13**] 08:45 AM
   ID consult: requested nasoph. swab and mini-BAL
   History obtained from Medical records
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-8-11**] 02:00 PM
   Acyclovir - [**2100-8-13**] 10:34 PM
   Penicillin G potassium - [**2100-8-14**] 05:55 AM
   Clindamycin - [**2100-8-14**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-14**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 84 (77 - 87) bpm
   BP: 112/33(56) {94/21(37) - 139/41(61)} mmHg
   RR: 23 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.4 kg (admission): 62 kg
   CVP: 17 (7 - 305)mmHg
   Total In:
                                                                  4,772 mL
                                                                  1,619 mL
   PO:
   TF:
                                                                    840 mL
                                                                    457 mL
   IVF:
                                                                  3,327 mL
                                                                  1,162 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,125 mL
                                                                    405 mL
   Urine:
                                                                    925 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,647 mL
                                                                  1,214 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.24/40/101/13/-9
   Ve: 12.3 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: , diffuse  rash
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   7.5 g/dL
   113 K/uL
   123 mg/dL
   2.6 mg/dL
   13 mEq/L
   4.2 mEq/L
   112 mg/dL
   107 mEq/L
   136 mEq/L
   22.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2100-8-12**]  04:42 AM
                             [**2100-8-12**]  02:13 PM
                             [**2100-8-13**]  01:38 AM
                             [**2100-8-13**]  03:31 AM
                             [**2100-8-13**]  06:13 AM
                             [**2100-8-13**]  03:30 PM
                             [**2100-8-13**]  03:40 PM
                             [**2100-8-14**]  04:30 AM
                             [**2100-8-14**]  04:44 AM
                             [**2100-8-14**]  11:00 AM
   WBC
   15.0
   14.8
   Hct
   21.9
   23.8
   22.6
   Plt
   130
   113
   Cr
   2.7
   2.7
   2.6
   TCO2
   15
   16
   16
   17
   16
   16
   18
   Glucose
   120
   141
   123
   Other labs: PT / PTT / INR:12.3/30.8/1.0, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:27/25, Alk Phos / T Bili:224/0.6,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.6 g/dL, LDH:239 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   Assessment and Plan
   84 yo male with admission for respiratory failiure, sepsis now
   complicated by persistent hypotension and slow to improve mental
   status.  He has persistent hypotension and has been unable to achieve
   hemodynamic stability which does raise the question of potential
   compromise of adrenal function in the setting of what may be
   disseminated HSV infection.  If this is true then we will have to
   consider steroid replacement therapy which will have to be driven be
   [**Last Name (un) **] stim testing.
   1)Respiratory Failure-_This is secondary to pneumonia with left lower
   lobe involvement which actually has shown some readiographic
   improvement.
   -Will decrease RR to 14 and decrease Vt to 500
   -Do have good improvement in lung mechanics and oxygenation suggested
   -Continue to Rx infectious sources
   2)Sepsis-
   -Patient currently on levophed, vasopressin
   -Will wean pressors at tolerated today---trial fluild bolus today
   liter and move to decrease pressor and repeat until able to wean
   pressors to off.  Will need maintenance fluild if able to stabilize
   -Strep Pneumonia
   --PCN G/Clindamycine
   -HSV/Possible adrenal insufficiency
   -Acyclovir
   -Do not see role for steroid Rx
   3)Renal Failure
Improved non-gap acidosis, urine output improving
   -Will enhance volume status
   4)Altered Mental Status-CT reassuring, some increased movement today
   -Follow exam
   -Minimize sedation
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   84 yo male with GBS sepsis/PNA and HSV. Multiorgan failure (resp
   failure, renal failure, shock, acidosis) developed in the context of
   sepsis and remains persistent despite broad spectrum abx
   Acute respiratory failure:
   Reasonable ventilation on current vent settings
   Marginal MS [**First Name (Titles) 43**] [**Last Name (Titles) 8449**] acidosis are barriers to wean
   Sepsis: On PCN/Clinda for GBS, Acyclovir for HSV, doxy for possible
   tick-borne illness
   No changes in abx, ID continuing to follow
   Shock: has remained pressor-dependent on vasopresin and levophed
   with CVP and ongoing pleural effusions, would avoid further volume
   resuscitation and maintain MAP with pressors
   Goal MAP>55
   AG [**Last Name (Titles) 8449**] acidosis from acute renal failure
   Trial of HCO3 infusion to see if this reduces pressor requirements
   Renal failure: Cr unchanged
   AMS: Off sedation x 3 days- minimal responsiveness with occasional
   grimacing and no corneal's. Head CT negative.
   Continue to monitor neuro status, minimize sedative meds
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-14**] 08:39 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2100-08-15 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID recs: no new recs
   - incr RR to 26 -> ABG pH 7.27 pCO2 39 pO2 108 HCO3 19
   - updated family -> they want a family mtg soon to likely withdraw care
   - on pressors: vaso: 2.4, levophed: 0.15
   Allergies:
   Ibuprofen
   [** **];
   Last dose of Antibiotics:
   Acyclovir - [**2100-8-14**] 10:34 PM
   Clindamycin - [**2100-8-14**] 11:59 PM
   Penicillin G potassium - [**2100-8-15**] 04:23 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-14**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-15**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 92 (79 - 92) bpm
   BP: 118/33(57) {102/28(50) - 136/41(61)} mmHg
   RR: 26 (19 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
    CVP: 8 (7 - 17)mmHg
   Total In:
                                                                  2,529 mL
                                                                    523 mL
   PO:
   TF:
                                                                    840 mL
                                                                    251 mL
   IVF:
                                                                  1,559 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    445 mL
   Urine:
                                                                  1,105 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,424 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.32/32/102/14/-8
   Ve: 14.2 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General: intubated, sedated
   HEENT: Endotracheal tube, NG tube
   Cardiovascular: RRR, no murmurs
   Resp: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ BLE edema
   Skin:  diffuse erythematous [**Year (4 digits) 5286**] all over body. Skin oozing fluids all
   over. perioral lesions
   Neurologic: sedated, has some stereotypical decorticate reflexes
   Labs / Radiology
   136 K/uL
   7.1 g/dL
   107 mg/dL
   2.4 mg/dL
   14 mEq/L
   4.0 mEq/L
   105 mg/dL
   105 mEq/L
   133 mEq/L
   21.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2100-8-13**]  06:13 AM
                             [**2100-8-13**]  03:30 PM
                             [**2100-8-13**]  03:40 PM
                             [**2100-8-14**]  04:30 AM
                             [**2100-8-14**]  04:44 AM
                             [**2100-8-14**]  11:00 AM
                             [**2100-8-14**]  03:58 PM
                             [**2100-8-14**]  04:15 PM
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
   WBC
   14.8
   12.3
   Hct
   23.8
   22.6
   21.3
   Plt
   113
   136
   Cr
   2.7
   2.6
   2.6
   2.4
   TCO2
   17
   16
   16
   18
   19
   17
   Glucose
   141
   123
   138
   107
   Other labs: PT / PTT / INR:12.6/29.3/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   Micro:
   Nasopharyngeal swab ([**8-7**]): HSV1
   blood cx ([**2017-8-12**]): pending
   Urine cx ([**8-13**]): no growth
   Sputum cx ([**8-13**]): pending; gram stain: no organisms
   lyme ([**8-7**]): neg
   sputum cx ([**8-3**]): GBS [**Last Name (un) 206**] to clinda and erythromycin. neg for
   legionella
   c.diff neg x2
   urine legionella antigen ([**8-3**]) neg
   HSV1 and 2 serologies in blood: pos HSV 1 IgG, neg HSV 1 IgM, HSV 2 IgG
   and IgM
   VZV, parvo, babesia, anaplasma and RMSF serologies: pending
   Imaing:
   CXR ([**8-15**]):
   As compared to recent radiographs, there has been little change in the
   appearance of interstitial edema and an asymmetric area of airspace
   opacification in the left perihilar region, which could reflect
   asymmetric
   edema or an area of infection. Moderate to large bilateral pleural
   effusions
   are again demonstrated.
   Assessment and Plan
   84 year old male with h/o throat cancer who was transferred from [**Hospital1 **] to [**Hospital1 1**] with respiratory failure, diffuse desquamating [**Hospital1 5286**],
   found to have GBS pneumonia and sepsis and multiorgan failure (renal
   failure/resp failure/shock/acidosis).
   #) Respiratory failure:  In the context of GBS pneumonia.  Patient has
   been treated with penicillin G and clinda, and his pneumonia is
   improving on imaging.  This respiratory failure could potentially be
   secondary to generalized HSV infection, the HSV DFA and culture from
   mini-BAL are pending. The current barriers to extubation include
   altered mental status, severe metabolic acidosis, bilateral pleural
   effusion, and pneumonia which is improving.  TTE showed normal EF, r/o
   CHF. Patient's smoking history puts him at risk for COPD.  Pt has HSV
   infection from two sources (nasopharynx and lip).
   - on  AC currently, RR increased from 18 to 26 in an attempt to blow
   off CO2 when he is being given bicarb
   - continue day 10 of penicillin G 4 million units IV q 8 hours (the
   drug of choice for GBS) (day1: [**8-6**]), clindamycin 900 mg IV q 8 hours
   (day1: [**8-6**]) to inhibit toxin production
   - continue day 12 of acyclovir for HSV infection (day1: [**8-4**]), as per
   ID this presentation could represent HSV generalized infection
   - continue day 8 of doxy for possible tick borne illness (day1: [**8-8**]);
   if no RMSF,  will d/c doxy
   - given bicarb (150meq in 1000cc D5W) x1 yesterday, re-check lytes in
   the pm and see if metabolic acidosis improves. If it did, consider
   giving another dose of bicarb
   - f/u cultures
   - f/u on ID recs
   .
   #) sepsis: The source of infection is likely pulmonary given his
   pneumonia.   Generalized HSV infection is another possibility but is
   less likely.  [**Last Name (un) 1398**] stim was normal.  Continues to remain remain
   pressors-dependent on vasopressin and levophed.  UA was negative. Blood
   culture has been negative, and TTE on [**8-3**] showed no vegetation. No
   evidence of sinusitis, so wouldn
t get at CT sinus at this point.
   - treat underlying PNA.  continue penicillin G 4 million units IV q 8
   hours (the drug of choice for GBS), clindamycin 900 mg IV q 8 hours to
   inhibit toxin production
   - continue acyclovir for HSV infection
   - f/u cultures and other infectious panel: f/u on RMSF, Anaplasma
   phagocytophilum (human granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Babesia
   Antibodies, IgG and IgM; Parvovirus B19 Antibodies; Varicella zoster
   Antibody, IgM
   - wean down pressors as pt has evidence of digital ischemia now. Goal
   MAP 55 (given his very low diastolic), although it would still be ideal
   to get his MAP to 55 to adequately perfuse his brain for improvement in
   mental status
   - with ongoing pleural effusions and nl CVP, would attempt to maintain
   MAP with pressors rather than IVF
   .
   #) Metabolic acidosis: pt continues to have an anion gap, likely due to
   renal failure and lactic acidosis. Non-anion gap acidosis significantly
   improved.
   - give bicarb today, increase RR from 18 to 26  when giving bicarb
   - give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr slowly improving.   Most likely [**12-21**] ATN from
   hypotension from sepsis.
   - support blood pressure for adequate perfusion of kidneys
   - as pt has lots of insensible fluid loss from skin [**Last Name (LF) 5286**], [**First Name3 (LF) 116**]
   aggressively resuscitate with LR
   - renally dose medications
   .
   #) [**First Name3 (LF) **]: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome. Per derm, cefepime was d/c
d as possibly
   contributing to the worsening skin [**First Name3 (LF) 5286**]. Per derm, this is either GBS,
   generalized pustulosis (benign drug reaction) or perhaps flare of
   psoriasis. derm path from [**Hospital1 **]: c/w hypersensitivity reaction:
   consider drug-induced or viral etiology.  Paraneoplastic syndrome
   cannot be exluded. Less likely HSV [**Hospital1 5286**], but it it not completely
   impossible.
   - on clindamycin to inhibit toxin production
   - continue acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin [**Hospital1 5286**]
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Altered mental status: Exam revealed some stereotypical decorticate
   reflexes. Unclear whether it is HSV encephalitis. Also likely [**12-21**]
   sedation and prolonged sepsis.
   - CT head x2 were negative for any intracranial process.
   - hold off on MRI for now
   - consider LP after clarification of goals of care
   - adequate blood pressure control for better perfusion of brain (goal
   MAP 65 but it may not be a realistic goal as the diastolic pressure has
   been very low). For now, maintain goal MAP at least 55 with IVF first,
   if still low then up the pressors. Hoping bicarb will help with
   acidosis and decrease pressor requirements and help with blood
   pressure.
   - continue thiamine
   .
   #) Anemia: Hct stable, received 1u pRBC on [**8-13**]. On admission Hct was
   31.4. DDx includes GIB given he was guaiac positive, anemia of chronic
   disease / inflammation or DAH given CXR infiltrate. Fe studies revealed
   anemia of chronic disease/inflammation. B12 and folate are normal. No
   evidence of hemolysis or DIC at this point. Patient also has renal
   failure which also contributes to his anemia.
   - transfuse one unit prbcs today cautiously given volume status
   - guaiac all stools
   - continue to monitor, goal Hct 21. Transfuse if hct <21
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h which was discontinued
   -continue to monitor
   -PM lytes
   #) SVT: didn
t have another episode during the past 48 hours. pt was
   found to be in SVT, most likely AVNRT or AVNT. Pt was hemodynamically
   unstable, SBP in the 70s to 80s despite being on levophed. In terms of
   etiologies of SVT, it is likely secondary to infection, volume
   depletion and levophed which is a beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - now that levophed restarted, need to monitor
   .
   #) Afib with RVR: now resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - update family
   - will need to watch this weekend, and see if he improves
   - will need to discuss tracheostomy early next week, patient will have
   been intubated for 2 weeks on Monday
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-13**] 04:09 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR, cardioversion is OK
   Disposition: ICU care

2100-08-15 08:16:00 Physician Attending Progress Note
TITLE: MICU Attending Progress Note
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo male with hx of throat cancer
   Hospitalzed at OSH for probable drug rash- mid-hospitalization
   developed acute respiratory failure/sepsis prompting transfer (GBS
   sepsis)
   GBS pneumonia sepsis/ and HSV
   Multiorgan failure with minimal progress on pressor/vent/AMS -negative
   [**Last Name (un) **] stem
   24 Hour Events:
   Remains on vasopressin and levophed to maintain MAP
   Rate increased on vent to 26
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2100-8-14**] 10:34 PM
   Clindamycin - [**2100-8-14**] 11:59 PM
   Penicillin G potassium - [**2100-8-15**] 04:23 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-14**] 11:59 PM
   Other medications:
   Colace, thiamine, SSI, chlorhexidine, protonix, MVI, aquaphor,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-15**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 92 (79 - 92) bpm
   BP: 118/33(57) {102/28(50) - 122/41(61)} mmHg
   RR: 26 (21 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
   CVP: 8 (7 - 17)mmHg
   Total In:
                                                                  2,529 mL
                                                                    584 mL
   PO:
   TF:
                                                                    840 mL
                                                                    287 mL
   IVF:
                                                                  1,559 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    445 mL
   Urine:
                                                                  1,105 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,424 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.32/32/102/14/-8
   Ve: 13.9 L/min
   PaO2 / FiO2: 255
   Physical Examination
   HEENT: +NGT, ETT
   Lungs: clear anteriorly
   CV: RRR
   Abd:soft, nt +bs
   Ext: Peripheral Vascular: (+radial/DP pulses
   Skin:  warm; diffuse erythematous rash (unchanged)
   LE: 1+ edema
   Neurologic: Not responsive, does not follow commands, occasionally
   opens eye, minor withdrawal to pain
   Labs / Radiology
   7.1 g/dL
   136 K/uL
   107 mg/dL
   2.4 mg/dL
   14 mEq/L
   4.0 mEq/L
   105 mg/dL
   105 mEq/L
   133 mEq/L
   21.3 %
   12.3 K/uL
        [image002.jpg]
                             [**2100-8-13**]  06:13 AM
                             [**2100-8-13**]  03:30 PM
                             [**2100-8-13**]  03:40 PM
                             [**2100-8-14**]  04:30 AM
                             [**2100-8-14**]  04:44 AM
                             [**2100-8-14**]  11:00 AM
                             [**2100-8-14**]  03:58 PM
                             [**2100-8-14**]  04:15 PM
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
   WBC
   14.8
   12.3
   Hct
   23.8
   22.6
   21.3
   Plt
   113
   136
   Cr
   2.7
   2.6
   2.6
   2.4
   TCO2
   17
   16
   16
   18
   19
   17
   Glucose
   141
   123
   138
   107
   Other labs: PT / PTT / INR:12.6/29.3/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   UrCx [**8-13**] negative
   Sputum [**8-13**] GS: no organisms
   CXR: bilateral effusions +/- consolidations, +ETT placement
   appropriate, unchanged
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   84 yo male with history of throat cancer tx'd from OSH with
   hospitalizaiton there notable for diffuse rash followed by dlirium and
   acute hypoxic respiratory failure resulting in transfer here and
   intubation. In the [**Hospital Unit Name 10**] he was diagnosed with GBS pneumonia and HSV
   (?disseiminated). His course has been characterized by persistent
   respiratory failure, shock, AG acidosis and poor mental status.
   1. Acute respiratory failure
   *On AC ventilation- oxygenation adequate but requiring high RR to
   ventilate
   2. Shock: continues to require pressors
   PCN/Clinda day 10 for GBS
   Doxy day 8 for possible tick borne illness
   3. AG acidosis: transient trial of bicarb infusion
   4. AMS: now off sedative medications for 4-5 days with little change
   5. Acute renal failure due to hypotension/ATN: renal function slowly
   improving, avoid nephrotoxins
   6. Anemia: Hct down to 21, transfuse 1 unit
   [**Unit Number **]. Goals of care: health care proxy [**Name (NI) **] (son), [**Name (NI) 142**] is his daughter-
   planning to gather family members for conference discussing goals of
   care- likely tomorrow.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-14**] 08:39 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB , mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2100-08-16 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - fu viral labs and cultures: pending
   - PM lytes: Na is 137 (up from 133)
   - goal MAP > 55
   - transfused 1 unit PRBCs due to hct of 21
   Allergies:
   Ibuprofen
   [** **];
   Last dose of Antibiotics:
   Clindamycin - [**2100-8-15**] 03:57 PM
   Acyclovir - [**2100-8-15**] 10:14 PM
   Penicillin G potassium - [**2100-8-16**] 04:09 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-15**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-15**] 01:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-16**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 82 (80 - 89) bpm
   BP: 132/40(65) {105/30(51) - 137/42(69)} mmHg
   RR: 22 (19 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
    CVP: 7 (6 - 20)mmHg
   Total In:
                                                                  2,538 mL
                                                                    582 mL
   PO:
   TF:
                                                                    840 mL
                                                                    269 mL
   IVF:
                                                                  1,279 mL
                                                                    313 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,645 mL
                                                                    640 mL
   Urine:
                                                                  2,045 mL
                                                                    640 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                   -107 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.30/36/91/19/-7
   Ve: 14.5 L/min
   PaO2 / FiO2: 228
   Physical Examination
   GEN: not sedated but not responsive to verbal stimuli; responsive to
   painful stimuli; body appears contracted
   HEENT: perioral lesions; eyes closed; ETT in place, NG tube
   CHEST: regular rhythm; diffuse coarse breath sounds
   ABD: nondistended, soft
   Ext: all four extremities very edematous
   Skin:  desquamating skin, erythematous, new hemorrhagic bulla on dorsal
   right hand
   Neurologic: Responds to painful stimuli by withdrawing; does not
   respond to verbal commands
   Labs / Radiology
   115 K/uL
   7.7 g/dL
   125 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.5 mEq/L
   98 mg/dL
   108 mEq/L
   136 mEq/L
   22.9 %
   10.4 K/uL
        [image002.jpg]
                             [**2100-8-14**]  04:44 AM
                             [**2100-8-14**]  11:00 AM
                             [**2100-8-14**]  03:58 PM
                             [**2100-8-14**]  04:15 PM
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
                             [**2100-8-15**]  03:10 PM
                             [**2100-8-15**]  06:45 PM
                             [**2100-8-16**]  03:49 AM
                             [**2100-8-16**]  04:02 AM
   WBC
   12.3
   10.4
   Hct
   21.3
   22.7
   22.9
   Plt
   136
   115
   Cr
   2.6
   2.4
   2.3
   2.2
   TCO2
   16
   18
   19
   17
   18
   Glucose
   138
   107
   112
   125
   Other labs: PT / PTT / INR:12.6/29.3/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, Fibrinogen:526 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.8 mg/dL
   [**8-16**] CXR:  (my read) trachea slightly right shifted but improved from
   yesterday.  Bilateral interstitial edema, interval interstitial opacity
   increase on Left since yesterday, bilateral pleural effusions, possible
   Left hilar infiltrate not significantly changed since yesterday
   Assessment and Plan
   84 year old male with h/o throat cancer who was transferred from [**Hospital1 **] to [**Hospital1 1**] with respiratory failure, diffuse desquamating [**Hospital1 5286**],
   found to have GBS pneumonia and sepsis and multiorgan failure (renal
   failure/resp failure/shock/acidosis).
   #) Respiratory failure:   Has GBS pneumonia, being treated with
   penicillin G and clindamycin; pneumonia appeared to be improving on
   imaging last week but worsening again.  Possibly has component of
   generalized HSV infection-- HSV DFA and culture from mini-BAL are
   pending. The current barriers to extubation include altered mental
   status, severe metabolic acidosis, infection, hemodynamic instability.
   TTE showed normal EF, r/o CHF. Patient's smoking history puts him at
   risk for COPD.  Pt has HSV infection from two sources (nasopharynx and
   lip).
   - on  AC currently, has increased work of breathing; Rule out autopeep
   - trial of Pressure Support in order to decrease his work of breathing
   - continue day 11 of penicillin G 4 million units IV q 8 hours (for
   GBS) (day1: [**8-6**]),
   - continue clindamycin 900 mg IV q 8 hours (day1: [**8-6**]) to inhibit
   toxin production
   - continue day 13 of acyclovir for HSV infection (day1: [**8-4**]), as per
   ID this presentation could represent HSV generalized infection
   - continue day 9 of doxy for possible tick borne illness (day1: [**8-8**]);
   if RMSF Neg,  will d/c doxy
   - f/u cultures
   - f/u on ID recs
   - intubated x2 wks
 discuss Goals of Care for tomorrow
   .
   #) Sepsis: The source of infection is likely pulmonary given his
   pneumonia.   Generalized HSV infection is another possibility but is
   less likely.  [**Last Name (un) 1398**] stim was normal.  Continues on pressors--
   vasopressin and norepinephrine.  UA was negative. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so no need for CT sinus at this time.  Consider Toxic Shock
   Syndrome, given desquamating [**Month/Year (2) 5286**]
   - continue pressors, but titrate pressors to Urine output >30ccs/hr,
   independent of MAP; continue to monitor MAP
   - treat underlying PNA.  continue penicillin G 4 million units IV q 8
   hours (for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production
   - continue acyclovir for HSV infection
   - f/u cultures and other infectious panel: f/u on RMSF, Anaplasma
   phagocytophilum (human granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Babesia
   Antibodies, IgG and IgM; Parvovirus B19 Antibodies; Varicella zoster
   Antibody, IgM
   - because of pleural effusions and normal CVP, electing to maintain MAP
   with pressors rather than IVF
   .
   #) Metabolic acidosis: pt continues to have acidosis, but appears to be
   more non-gap.  Was given bicarb previously, but bicarb is increasing
   his sodium intake, which is increasing his volume
   - d/c bicarb
   - give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr slowly improving.   Most likely [**12-21**] ATN from
   hypotension from sepsis.
   - support blood pressure for adequate perfusion of kidneys
   - as pt has lots of insensible fluid loss from skin [**Last Name (LF) 5286**], [**First Name3 (LF) 116**]
   aggressively resuscitate with LR
   - renally dose medications
   .
   #) [**First Name3 (LF) **]: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome.  Has new hemorrhagic bulla on hand, possibly
   indicating progression of the desquamating skin process.  Per derm,
   cefepime was d/c
d due to possibility of drug [**First Name3 (LF) 5286**] being the etiology
   of skin process.  Per derm, this is either GBS, generalized pustulosis
   (benign drug reaction) or perhaps flare of psoriasis. derm path from
   [**Hospital1 **]: c/w hypersensitivity reaction: consider drug-induced or viral
   etiology.  Paraneoplastic syndrome cannot be exluded. Less likely HSV
   [**Hospital1 5286**], but it it not completely impossible.
   - on clindamycin to inhibit toxin production
   - continue acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin [**Hospital1 5286**]
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Altered mental status: Had some stereotypical decorticate reflexes
   yesterday. Possibility of HSV encephalitis. Also likely [**12-21**] sedation
   and prolonged sepsis.
   - CT head x2 were negative for any intracranial process.
   - hold off on MRI for now
   - consider LP after clarification of goals of care
   - adequate blood pressure control for better perfusion of brain, but
   will titrate pressors to urine output >30ccs/hr.
   - continue thiamine
   .
   #) Anemia: Hct stable, received 1u pRBC on [**8-13**] and 1 unit pRBCs [**8-15**].
   On admission Hct was 31.4. DDx includes GIB given he was guaiac
   positive, anemia of chronic disease / inflammation or DAH given CXR
   infiltrate. Fe studies revealed anemia of chronic disease/inflammation.
   B12 and folate are normal. Patient also has renal failure which also
   contributes to his anemia.
   - repeat coags and get DIC labs
   - guaiac all stools
   - continue to monitor, goal Hct 21. Transfuse if hct <21
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h which was discontinued.  Hyponatremia 133 from
   yesterday improved to 137 yesterday evening and 136 this morning.
   -continue to monitor
   #) SVT:  pt was found to be in SVT, most likely AVNRT or AVNT with no
   recent episodes in last 3 days.  Pt was hemodynamically unstable, SBP
   in the 70s to 80s despite being on levophed. Differential for etiology
   of SVT includes infection, volume depletion and levophed which is a
   beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - in setting of levophed restart, need to monitor
   .
   #) Afib with RVR: resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - update family and set up time for family meeting tomorrow
   - pt intubated x 2 weeks -- will need to discuss tracheostomy option
   with family in addition to goals of care and possible withdrawal of
   care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-15**] 01:08 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT:   subQ heparin
   Stress ulcer:   PPI
   VAP:   VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), but cardioversion OK
   Disposition:  pending resolution of above and family mtg discussion

2100-08-17 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -rechecked coags/DIC panel due to excessive bleeding at site of SQ
   heparin injection in AM:  PT: 13.1  PTT: 28.1  INR: 1.1  Fibrinogen:
   505  D-Dimer: 1601  Platelets 116 (stable)
   - PS trial, concern re: auto peep
   - pt was overbreathing the autopeep setting, so could not be checked
   - Urine output 50-100cc/hr, net fluids about even overnight
   - ID Recs: 1.) cont PCN/Clinda. if Gm Neg coverage desired, switch to
   meropenem or cefepime (ID prefers cefepime, though derm prefers Not
   cefepime)  2.) DC Doxycycline bc RMSF would have gotten full tx course
   w 8 days  3.) cont Acyclovir and await BAL results
   - Doxy DCed per ID recs, and RMSF neg
   Allergies:
   Ibuprofen
   [** **];
   Last dose of Antibiotics:
   Acyclovir - [**2100-8-16**] 10:13 PM
   Clindamycin - [**2100-8-17**] 12:27 AM
   Penicillin G potassium - [**2100-8-17**] 04:22 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-17**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-17**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 75 (72 - 83) bpm
   BP: 131/36(59) {106/32(54) - 131/41(64)} mmHg
   RR: 19 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
    CVP: 15 (8 - 17)mmHg
   Total In:
                                                                  1,905 mL
                                                                    576 mL
   PO:
   TF:
                                                                    840 mL
                                                                    273 mL
   IVF:
                                                                  1,025 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,220 mL
   Urine:
                                                                  1,950 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                   -644 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 33 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.33/35/101/17/-6
   Ve: 14.3 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   120 K/uL
   7.2 g/dL
   111 mg/dL
   1.9 mg/dL
   17 mEq/L
   3.3 mEq/L
   98 mg/dL
   114 mEq/L
   142 mEq/L
   20.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2100-8-14**]  04:15 PM
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
                             [**2100-8-15**]  03:10 PM
                             [**2100-8-15**]  06:45 PM
                             [**2100-8-16**]  03:49 AM
                             [**2100-8-16**]  04:02 AM
                             [**2100-8-16**]  01:20 PM
                             [**2100-8-17**]  04:42 AM
                             [**2100-8-17**]  04:54 AM
   WBC
   12.3
   10.4
   8.0
   Hct
   21.3
   22.7
   22.9
   20.8
   Plt
   136
   115
   116
   120
   Cr
   2.4
   2.3
   2.2
   1.9
   TCO2
   19
   17
   18
   19
   Glucose
   107
   112
   125
   111
   Other labs: PT / PTT / INR:13.1/28.1/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, D-dimer:1601 ng/mL, Fibrinogen:505
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:6.8
   mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   84 year old male with h/o throat cancer who was transferred from [**Hospital1 **] to [**Hospital1 1**] with respiratory failure, diffuse desquamating [**Hospital1 5286**],
   found to have GBS pneumonia and sepsis and multiorgan failure (renal
   failure/resp failure/shock/acidosis).
   #) Respiratory failure:   Has GBS pneumonia, being treated with
   penicillin G and clindamycin; pneumonia appeared to be improving on
   imaging last week but worsening again.  Possibly has component of
   generalized HSV infection-- HSV DFA and culture from mini-BAL are
   pending. The current barriers to extubation include altered mental
   status, severe metabolic acidosis, infection, hemodynamic instability.
   TTE showed normal EF, r/o CHF. Patient's smoking history puts him at
   risk for COPD.  Pt has HSV infection from two sources (nasopharynx and
   lip).
   - on  AC currently, has increased work of breathing; Rule out autopeep
   - trial of Pressure Support in order to decrease his work of breathing
   - continue day 11 of penicillin G 4 million units IV q 8 hours (for
   GBS) (day1: [**8-6**]),
   - continue clindamycin 900 mg IV q 8 hours (day1: [**8-6**]) to inhibit
   toxin production
   - continue day 13 of acyclovir for HSV infection (day1: [**8-4**]), as per
   ID this presentation could represent HSV generalized infection
   - continue day 9 of doxy for possible tick borne illness (day1: [**8-8**]);
   if RMSF Neg,  will d/c doxy
   - f/u cultures
   - f/u on ID recs
   - intubated x2 wks
 discuss Goals of Care for tomorrow
   .
   #) Sepsis: The source of infection is likely pulmonary given his
   pneumonia.   Generalized HSV infection is another possibility but is
   less likely.  [**Last Name (un) 1398**] stim was normal.  Continues on pressors--
   vasopressin and norepinephrine.  UA was negative. Blood culture has
   been negative, and TTE on [**8-3**] showed no vegetation. No evidence of
   sinusitis, so no need for CT sinus at this time.  Consider Toxic Shock
   Syndrome, given desquamating [**Month/Year (2) 5286**]
   - continue pressors, but titrate pressors to Urine output >30ccs/hr,
   independent of MAP; continue to monitor MAP
   - treat underlying PNA.  continue penicillin G 4 million units IV q 8
   hours (for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production
   - continue acyclovir for HSV infection
   - f/u cultures and other infectious panel: f/u on RMSF, Anaplasma
   phagocytophilum (human granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Babesia
   Antibodies, IgG and IgM; Parvovirus B19 Antibodies; Varicella zoster
   Antibody, IgM
   - because of pleural effusions and normal CVP, electing to maintain MAP
   with pressors rather than IVF
   .
   #) Metabolic acidosis: pt continues to have acidosis, but appears to be
   more non-gap.  Was given bicarb previously, but bicarb is increasing
   his sodium intake, which is increasing his volume
   - d/c bicarb
   - give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr slowly improving.   Most likely [**12-21**] ATN from
   hypotension from sepsis.
   - support blood pressure for adequate perfusion of kidneys
   - as pt has lots of insensible fluid loss from skin [**Last Name (LF) 5286**], [**First Name3 (LF) 116**]
   aggressively resuscitate with LR
   - renally dose medications
   .
   #) [**First Name3 (LF) **]: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome.  Has new hemorrhagic bulla on hand, possibly
   indicating progression of the desquamating skin process.  Per derm,
   cefepime was d/c
d due to possibility of drug [**First Name3 (LF) 5286**] being the etiology
   of skin process.  Per derm, this is either GBS, generalized pustulosis
   (benign drug reaction) or perhaps flare of psoriasis. derm path from
   [**Hospital1 **]: c/w hypersensitivity reaction: consider drug-induced or viral
   etiology.  Paraneoplastic syndrome cannot be exluded. Less likely HSV
   [**Hospital1 5286**], but it it not completely impossible.
   - on clindamycin to inhibit toxin production
   - continue acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin [**Hospital1 5286**]
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Altered mental status: Had some stereotypical decorticate reflexes
   yesterday. Possibility of HSV encephalitis. Also likely [**12-21**] sedation
   and prolonged sepsis.
   - CT head x2 were negative for any intracranial process.
   - hold off on MRI for now
   - consider LP after clarification of goals of care
   - adequate blood pressure control for better perfusion of brain, but
   will titrate pressors to urine output >30ccs/hr.
   - continue thiamine
   .
   #) Anemia: Hct stable, received 1u pRBC on [**8-13**] and 1 unit pRBCs [**8-15**].
   On admission Hct was 31.4. DDx includes GIB given he was guaiac
   positive, anemia of chronic disease / inflammation or DAH given CXR
   infiltrate. Fe studies revealed anemia of chronic disease/inflammation.
   B12 and folate are normal. Patient also has renal failure which also
   contributes to his anemia.
   - repeat coags and get DIC labs
   - guaiac all stools
   - continue to monitor, goal Hct 21. Transfuse if hct <21
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h which was discontinued.  Hyponatremia 133 from
   yesterday improved to 137 yesterday evening and 136 this morning.
   -continue to monitor
   #) SVT:  pt was found to be in SVT, most likely AVNRT or AVNT with no
   recent episodes in last 3 days.  Pt was hemodynamically unstable, SBP
   in the 70s to 80s despite being on levophed. Differential for etiology
   of SVT includes infection, volume depletion and levophed which is a
   beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - in setting of levophed restart, need to monitor
   .
   #) Afib with RVR: resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unsure
   if he really has hypothyrodism or sick euthyroid syndrome. Would not
   check thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - family meeting tomorrow today
   - pt intubated x 2 weeks -- will need to discuss tracheostomy option
   with family in addition to goals of care and possible withdrawal of
   care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-16**] 05:27 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), cardioversion OK
   Disposition:

2100-08-17 11:02:00 Physician Attending Progress Note
Chief Complaint: Hypotension, pneumonia, acute respiratory failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues on 2 vasopressors for over one week. Continues on
   ventilator as well. Renal function slightly better; urine output
   acceptable.
   Patient shows response to noxious stimuli.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Ibuprofen
   [** **];
   Last dose of Antibiotics:
   Acyclovir - [**2100-8-16**] 10:13 PM
   Clindamycin - [**2100-8-17**] 12:27 AM
   Penicillin G potassium - [**2100-8-17**] 04:22 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-17**] 08:00 AM
   Other medications:
   Levophed, colace, heparin, chlorhex, protonix, MVI.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-17**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 79 (72 - 141) bpm
   BP: 119/39(63) {94/34(54) - 142/41(64)} mmHg
   RR: 26 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
   CVP: 15 (11 - 17)mmHg
   Total In:
                                                                  1,905 mL
                                                                    917 mL
   PO:
   TF:
                                                                    840 mL
                                                                    371 mL
   IVF:
                                                                  1,025 mL
                                                                    486 mL
   [**Year (4 digits) 229**] products:
   Total out:
                                                                  1,950 mL
                                                                  1,560 mL
   Urine:
                                                                  1,950 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                   -643 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 33 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.33/35/101/17/-6
   Ve: 14.3 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube,
   No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, [**Year (4 digits) **]: Desquamation., No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   120 K/uL
   111 mg/dL
   1.9 mg/dL
   17 mEq/L
   3.3 mEq/L
   98 mg/dL
   114 mEq/L
   142 mEq/L
   20.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2100-8-14**]  04:15 PM
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
                             [**2100-8-15**]  03:10 PM
                             [**2100-8-15**]  06:45 PM
                             [**2100-8-16**]  03:49 AM
                             [**2100-8-16**]  04:02 AM
                             [**2100-8-16**]  01:20 PM
                             [**2100-8-17**]  04:42 AM
                             [**2100-8-17**]  04:54 AM
   WBC
   12.3
   10.4
   8.0
   Hct
   21.3
   22.7
   22.9
   20.8
   Plt
   136
   115
   116
   120
   Cr
   2.4
   2.3
   2.2
   1.9
   TCO2
   19
   17
   18
   19
   Glucose
   107
   112
   125
   111
   Other labs: PT / PTT / INR:13.1/28.1/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, D-dimer:1601 ng/mL, Fibrinogen:505
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:6.8
   mg/dL, Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   ACIDOSIS
   ============================
   Hypotension persists, but urine output accpetable. Continues on
   vasopressin; levephed stopped about 30 mins ago.
   Patient remains largely unresponsive (noxious stimuii) off sedation.
   Brainstem reflexes intact. Head CT without significant findings.
   Consider EEG to assess for nonmotor status epilepticus.
   Patient with high minute ventilation suggesting significant dead space.
   Muscle weakness with catabolic state may be contributing to ongoing
   respiratory failure; CXR suggests bilateral pleural effusions; cannot
   diurese with ongoing problems with [**Name2 (NI) **] pressure.
   Hct down. Now at transfusion threshold.
   Non gap acidosis probably related to volume resuscitation with NS. Now
   getting LR if needed.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-16**] 05:27 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2100-08-18 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Goals of care discussion; family not ready to give up yet, but will
   make a decision later in week. Still coming to terms.
   - ask Derm specifically about hemorrhagic bulla on hands dorsum
   - transfuse for Hct<21; given 2 units PRBC
   ID: cont. pcn/clina if crcl improves to >50 cc/[**Last Name (LF) **], [**First Name3 (LF) 116**] need to
   increase PCN dose; HSV pneuomonitis?: given improvement in renal
   function, consider increasing dose to 10 mg q 12 hours. DONE.
   Allergies:
   Ibuprofen
   [**First Name3 (LF) **];
   Last dose of Antibiotics:
   Clindamycin - [**2100-8-18**] 12:19 AM
   Acyclovir - [**2100-8-18**] 03:09 AM
   Penicillin G potassium - [**2100-8-18**] 04:25 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.02 mcg/Kg/[**Year (4 digits) **]
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-8-18**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-18**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.2
   HR: 71 (67 - 141) bpm
   BP: 105/36(58) {92/27(45) - 142/41(66)} mmHg
   RR: 20 (16 - 27) insp/[**Year (4 digits) **]
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
    CVP: 15 (11 - 21)mmHg
   Total In:
                                                                  2,144 mL
                                                                    918 mL
   PO:
   TF:
                                                                    840 mL
                                                                    238 mL
   IVF:
                                                                  1,046 mL
                                                                    317 mL
   Blood products:
                                                                    198 mL
                                                                    362 mL
   Total out:
                                                                  2,440 mL
                                                                    565 mL
   Urine:
                                                                  1,740 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -296 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 95%
   ABG: ///18/
   Ve: 13.7 L/[**Year (4 digits) **]
   Physical Examination
   GEN: Intubated, sedated, not responding or following commands
   HEENT: +ETT
   CHEST: reg rhythm, normal rate, soft heart sounds; anterior chest
   clear
   ABD: subcutaneous subq heparin injection site from yesterday with 3-5ml
   fresh blood on chux though site did not appear to be actively bleeding;
   abdomen soft, nontender
   EXT: [**1-20**]+ pitting edema bilateral upper and lower extremities,
   desquamating skin on hands and feet
   Skin: diffuse  desquamating skin, erythematous, not significantly
   changed from yesterday; dorsum of bilateral hands with hemorrhagic
   bullae L>R, now spread to his bilateral forearms
   GU: very edematous scrotum
   Neurologic: Responds to noxious stimuli; has corneal reflex bilaterally
   Labs / Radiology
   110 K/uL
   8.9 g/dL
   102 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.6 mEq/L
   89 mg/dL
   114 mEq/L
   145 mEq/L
   26.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
                             [**2100-8-15**]  03:10 PM
                             [**2100-8-15**]  06:45 PM
                             [**2100-8-16**]  03:49 AM
                             [**2100-8-16**]  04:02 AM
                             [**2100-8-16**]  01:20 PM
                             [**2100-8-17**]  04:42 AM
                             [**2100-8-17**]  04:54 AM
                             [**2100-8-18**]  03:55 AM
   WBC
   12.3
   10.4
   8.0
   7.9
   Hct
   21.3
   22.7
   22.9
   20.8
   26.2
   Plt
   136
   115
   116
   120
   110
   Cr
   2.4
   2.3
   2.2
   1.9
   1.7
   TCO2
   17
   18
   19
   Glucose
   107
   112
   125
   111
   102
   Other labs:
   Ca: 6.9, Mg: 1.5, Phos: 4.8
   Assessment and Plan
   84 year old male with h/o throat cancer who was transferred from [**Hospital1 **] to [**Hospital1 1**] with respiratory failure, diffuse desquamating [**Hospital1 5286**],
   found to have GBS pneumonia and sepsis and multiorgan failure (renal
   failure/resp failure/shock/acidosis).
   #) Respiratory failure:   Has GBS pneumonia, being treated with
   penicillin G and clindamycin.  Clinical improvement questionable.
   Possibly has component of generalized HSV infection.  The current
   barriers to extubation include altered mental status, infection,
   hemodynamic instability.  TTE showed normal EF, r/o CHF. Patient's
   smoking history puts him at risk for COPD.
   - on  AC, no longer appears to have increased work of breathing
   - continue day 12 of penicillin G 4 million units IV q 8 hours (for
   GBS) (day1: [**8-6**]),
   - continue clindamycin 900 mg IV q 8 hours (day1: [**8-6**]) to inhibit
   toxin production
   - continue day 14 of acyclovir for HSV infection (day1: [**8-4**]), as per
   ID this presentation could represent HSV generalized infection
   - Doxy D/Ced yesterday b/c RMSF negative and had completed full 8 day
   course regardless for RMSF
   - f/u remaining cultures
   - f/u on ID recs
   - intubated x2 wks
 discuss Goals of Care at family meeting this
   afternoon
   .
   #) Sepsis/ Hypotension:  Secondary to GBS pneumonia and possible Toxic
   Shock Syndrome.   Generalized HSV infection is another possibility but
   is less likely.  [**Last Name (un) 1398**] stim was normal.   Has been recently on pressors
   vasopressin and norepinephrine, but was able to titrate off levophed
   late this morning.
   - continue vasopressin as needed, but titrate pressors to Urine output
   >30ccs/hr, independent of MAP; continue to monitor MAP
   - treat underlying PNA--  continue penicillin G 4 million units IV q 8
   hours (for GBS), clindamycin 900 mg IV q 8 hours to inhibit toxin
   production
   - continue acyclovir for HSV infection
   - f/u cultures and other infectious panel:    Anaplasma phagocytophilum
   (human granulocytic Ehrlichia [**Doctor Last Name 23**]) IgG/IgM; Babesia Antibodies, IgG
   and IgM; Parvovirus B19 Antibodies; Varicella zoster Antibody, IgM
   .
   #) [**Doctor Last Name **]: OSH biopsy diagnosed leukoclastic vasculitis, however, given
   pt was GBS positive in sputum culture, question whether it is related
   to toxic shock syndrome.  Has new hemorrhagic bulla on hand, possibly
   indicating progression of the desquamating skin process.  Per derm,
   cefepime was d/c
d due to possibility of drug [**Doctor Last Name 5286**] being the etiology
   of skin process.  Derm path from [**Hospital1 **]: c/w hypersensitivity
   reaction: consider drug-induced or viral etiology.   Paraneoplastic
   syndrome cannot be exluded. Much less likely HSV [**Hospital1 5286**].
   - on clindamycin to inhibit toxin production
   - continue acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin [**Hospital1 5286**]
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)
   - f/u any new derm recs
   - no advil/motrin
   .
   #) Altered mental status: Unclear baseline mental status. Has corneal
   and pupilary reflexes and responds to painful stimuli.  [**Month (only) 11**] have
   cerebral edema.  Possibility of HSV encephalitis. Also may be secondary
   to sedation and prolonged sepsis.
   - CT head x2 were negative for any intracranial process.
   - consider LP after clarification of goals of care
   - adequate blood pressure control for better perfusion of brain at this
   time -- titrating pressors to urine output >30ccs/hr.
   - continue thiamine
   .
   #) Metabolic acidosis:  pt continues to have acidosis, but appears to
   be more non-gap.
   - if patient were to need fluids, give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr slowly improving.   Most likely secondary to ATN
   from hypotension from sepsis.
   - support blood pressure for adequate perfusion of kidneys
   - as pt has lots of insensible fluid loss from skin [**Last Name (LF) 5286**], [**First Name3 (LF) 116**]
   aggressively resuscitate with LR as needed
   - renally dose medications
   .
   #) Anemia: Hct 20.1 today . Had received 1u pRBC on [**8-13**] and 1 unit
   pRBCs [**8-15**]. On admission Hct was 31.4. DDx includes GIB given he was
   guaiac positive, anemia of chronic disease.  Does not likely have DAH,
   though it is still on differential in setting of CXR infiltrate. Fe
   studies revealed anemia of chronic disease/inflammation. B12 and folate
   are normal. Patient also has renal failure which also contributes to
   his anemia.  Repeat coags and DIC Labs normal except for elevated
   D-dimer which is very non-specific.
   - Hold on transfusion of 1u pRBCs until after family meeting to discuss
   goals of care
   - guaiac all stools
   - continue to monitor
   .
   #) Hyponatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h which was discontinued.  Hyponatremia 133 from
   two days ago improved to 136 yesterday and 142 today.
   -continue to monitor
   #) SVT:  pt was found to be in SVT, most likely AVNRT or AVNT with no
   recent episodes in last 3 days.  Pt was hemodynamically unstable, SBP
   in the 70s to 80s despite being on levophed. Differential for etiology
   of SVT includes infection, volume depletion and levophed which is a
   beta1 agonist.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - in setting of levophed restart, need to monitor
   .
   #) Afib with RVR: resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unclear
   if actual hypothyrodism vs. sick euthyroid syndrome. Would not check
   thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - family meeting today
   - pt intubated x 2 weeks -- will need to discuss tracheostomy option
   with family in addition to goals of care and possible withdrawal of
   care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-17**] 09:48 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU, family will make decision about further goals of care
   later in the week

2100-08-18 11:45:00 Physician Attending Progress Note
Chief Complaint: Hypotension, acute renal failure, tachycardia, anemia,
   acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues on two vasopressors to sustain adequate blood
   pressure. Several large bullae noted on skin.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2100-8-18**] 03:09 AM
   Penicillin G potassium - [**2100-8-18**] 04:25 AM
   Clindamycin - [**2100-8-18**] 07:42 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-18**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-18**] 07:42 AM
   Other medications:
   Insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-18**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.3
   HR: 76 (67 - 77) bpm
   BP: 128/41(69) {92/27(45) - 128/41(69)} mmHg
   RR: 23 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
   CVP: 20 (11 - 21)mmHg
   Total In:
                                                                  2,144 mL
                                                                  1,306 mL
   PO:
   TF:
                                                                    840 mL
                                                                    400 mL
   IVF:
                                                                  1,046 mL
                                                                    544 mL
   Blood products:
                                                                    198 mL
                                                                    362 mL
   Total out:
                                                                  2,440 mL
                                                                    825 mL
   Urine:
                                                                  1,740 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -296 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: ///18/
   Ve: 13.3 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Opens eyes
   Eyes / Conjunctiva: No(t) Pupils dilated, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing, Anasarca
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Diffuse erythematous, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   110 K/uL
   102 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.6 mEq/L
   89 mg/dL
   114 mEq/L
   145 mEq/L
   26.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
                             [**2100-8-15**]  03:10 PM
                             [**2100-8-15**]  06:45 PM
                             [**2100-8-16**]  03:49 AM
                             [**2100-8-16**]  04:02 AM
                             [**2100-8-16**]  01:20 PM
                             [**2100-8-17**]  04:42 AM
                             [**2100-8-17**]  04:54 AM
                             [**2100-8-18**]  03:55 AM
   WBC
   12.3
   10.4
   8.0
   7.9
   Hct
   21.3
   22.7
   22.9
   20.8
   26.2
   Plt
   136
   115
   116
   120
   110
   Cr
   2.4
   2.3
   2.2
   1.9
   1.7
   TCO2
   17
   18
   19
   Glucose
   107
   112
   125
   111
   102
   Other labs: PT / PTT / INR:13.1/28.1/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, D-dimer:1601 ng/mL, Fibrinogen:505
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:6.9
   mg/dL, Mg++:1.5 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 ANEMIA, CHRONIC
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   =====================
   Remains hypotensive with need for vasopressors. Continues on
   antibiotics. Worsening problems with skin breakdown.
   Minute ventilation at 13-14L/min. Oxygenation adequate.
   Creat slightly improved.
   Transfused yesterday.
   Continue discussions with family re: goals of care.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2100-8-17**] 09:48 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2100-08-19 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient placed on morphine drip for pain control
   - aspirated his tube feeds and OGT had come dislodged, d/c'd NGT and
   tube feeds
   - Patient's family is putting affairs in order and waiting for a few
   siblings to get here today
   - levophed was increased to 0.06mcg/kg/min and still on vasopressin to
   compensate for increased morphine
   Allergies:
   Ibuprofen
   [** **];
   Last dose of Antibiotics:
   Clindamycin - [**2100-8-19**] 12:53 AM
   Penicillin G potassium - [**2100-8-19**] 04:30 AM
   Acyclovir - [**2100-8-19**] 05:34 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Morphine Sulfate - 4 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-8-18**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2100-8-18**] 07:42 AM
   Morphine Sulfate - [**2100-8-18**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-19**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 83 (62 - 83) bpm
   BP: 102/36(56) {95/33(54) - 131/43(71)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
    CVP: 16 (13 - 20)mmHg
   Total In:
                                                                  2,137 mL
                                                                    302 mL
   PO:
   TF:
                                                                    665 mL
   IVF:
                                                                  1,009 mL
                                                                    302 mL
   Blood products:
                                                                    362 mL
   Total out:
                                                                  1,805 mL
                                                                    530 mL
   Urine:
                                                                  1,805 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: ////
   Ve: 13.6 L/min
   Physical Examination
   GEN: Intubated, sedated, not responding or following commands
   HEENT: +ETT
   CHEST: reg rhythm, normal rate, soft heart sounds; rhonchorous
   diffusely
   ABD:  abdomen soft, nontender, skin erythematous and increased
   breakdown
   EXT: [**1-20**]+ pitting edema bilateral upper and lower extremities,
   desquamating skin on hands and feet
   Skin: diffuse  desquamating skin, erythematous, not significantly
   changed from yesterday; dorsum of bilateral hands with hemorrhagic
   bullae L>R, now spread to his bilateral forearms
   GU: very edematous scrotum
   Neurologic: Responds to noxious stimuli; has corneal reflex bilaterally
   Labs / Radiology
   110 K/uL
   8.9 g/dL
   102 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.6 mEq/L
   89 mg/dL
   114 mEq/L
   145 mEq/L
   26.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
                             [**2100-8-15**]  03:10 PM
                             [**2100-8-15**]  06:45 PM
                             [**2100-8-16**]  03:49 AM
                             [**2100-8-16**]  04:02 AM
                             [**2100-8-16**]  01:20 PM
                             [**2100-8-17**]  04:42 AM
                             [**2100-8-17**]  04:54 AM
                             [**2100-8-18**]  03:55 AM
   WBC
   12.3
   10.4
   8.0
   7.9
   Hct
   21.3
   22.7
   22.9
   20.8
   26.2
   Plt
   136
   115
   116
   120
   110
   Cr
   2.4
   2.3
   2.2
   1.9
   1.7
   TCO2
   17
   18
   19
   Glucose
   107
   112
   125
   111
   102
   Other labs: PT / PTT / INR:13.1/28.1/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, D-dimer:1601 ng/mL, Fibrinogen:505
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:6.9
   mg/dL, Mg++:1.5 mg/dL, PO4:4.8 mg/dL
   MICRO:
A. PHAGOCYTOPHILUM IGG        <1:64
   A. PHAGOCYTOPHILUM IGM        <1:20
BABESIA MICROTI IGG           <1:16
   BABESIA MICROTI IGM           <1:20
   PARVOVIRUS B19 (IGG)          4.43  A
   PARVOVIRUS B19 (IGM)          NEGATIVE
   VZV AB IGM, EIA               0.04
   Herpes Virus 6 DNA, QN PCR    <500
RMSF IGG                      NEGATIVE            NEGATIVE
RMSF IGM                      NEGATIVE            NEGATIVE
   [**2100-8-13**]: Bronchial Aspirate:  No HSV virus isolated so far
   Assessment and Plan
   84 year old male with h/o throat cancer who was transferred from [**Hospital1 **] to [**Hospital1 1**] with respiratory failure, diffuse desquamating [**Hospital1 5286**],
   found to have GBS pneumonia and sepsis and multiorgan failure (renal
   failure/resp failure/shock/acidosis).
   #) Sepsis/ Hypotension:  Secondary to GBS pneumonia and possible Toxic
   Shock Syndrome.   Pressors vasopressin and norepinephrine continue.
   Norepinephrine had to be titrated up to keep BP and Urine output up due
   to morphine gtt.
   - continue vasopressin as needed, but titrate pressors to Urine output
   >30ccs/hr, independent of MAP; continue to monitor MAP
   - treat underlying PNA--  continue penicillin G 2 million units IV q 4
   hours (for GBS), clindamycin to inhibit toxin production
   - continue acyclovir for HSV infection
   #) Respiratory failure:   Has GBS pneumonia, being treated with
   penicillin G and clindamycin.  Clinical improvement questionable,
   appears to be have been interacting more yesterday, but skin worsening
   and aspirated tube feeds last night.  The current barriers to
   extubation include altered mental status, infection, hemodynamic
   instability.  TTE showed normal EF, r/o CHF.  Patient's smoking history
   puts him at risk for COPD.
   - continues on  AC
   - continue day 13 of penicillin G 2 million units IV q 4 hours (for
   GBS) (day1: [**8-6**]),
   - continue clindamycin 900 mg IV q 8 hours (day1: [**8-6**]) to inhibit
   toxin production
   - continue day 15 of acyclovir for HSV infection (day1: [**8-4**]), as per
   ID this presentation could represent HSV generalized infection
   - f/u remaining cultures
   .
   #) [**Month/Year (2) **]:   Skin erythematous and continues to desquamate with more
   breakdown diffusely.  Pt appears to be in significant pain when moved
   around or examined.  OSH biopsy diagnosed leukoclastic vasculitis,
   however, given pt was GBS positive in sputum culture, question whether
   it is related to toxic shock syndrome.  Has new skin breakdown in
   dependent areas, patient is unable to recover from the original insult,
   given his low albumin and clinical deterioration.  Derm path from
   [**Hospital1 **]: c/w hypersensitivity reaction: consider drug-induced or viral
   etiology.
   - on clindamycin to inhibit toxin production
   - continue acyclovir per ID
   - continue triamcinolone ointment [**Hospital1 **] for skin [**Hospital1 5286**]
   - continue Aquafor [**Hospital1 **]
    -wound care (pt also has ulcer on coccyx)-patient is developing more
   ulcers in dependent areas
   - no advil/motrin
   .
   #) Altered mental status: Will open his eyes more but is not
   interactive or following commands.  Has morphine gtt now though not on
   other sedation.  Has corneal and pupilary reflexes and responds to
   painful stimuli.  [**Month (only) 11**] have cerebral edema.  Not likely HSV
   encephalitis.
   - CT head x2 previously were negative for any intracranial process.
   - no LP given current goals of care
   - adequate blood pressure control for better perfusion of brain at this
   time -- titrating pressors to urine output >30ccs/hr.
   - continue thiamine
   .
   #) Metabolic acidosis:  pt continues to have acidosis, but appears to
   be more non-gap.
   - if patient were to need fluids, give LR instead of NS if giving IVF
   .
   #) Renal Failure:  Cr slowly improving.   Most likely secondary to ATN
   from hypotension from sepsis.
   - support blood pressure for adequate perfusion of kidneys
   - as pt has lots of insensible fluid loss from skin [**Last Name (LF) 5286**], [**First Name3 (LF) 116**]
   aggressively resuscitate with LR as needed
   - renally dose medications
   .
   #) Anemia: Hct 20.1 today . Had received 1u pRBC on [**8-13**] and 1 unit
   pRBCs [**8-15**]. On admission Hct was 31.4. DDx includes GIB given he was
   guaiac positive, anemia of chronic disease.  Does not likely have DAH,
   though it is still on differential in setting of CXR infiltrate. Fe
   studies revealed anemia of chronic disease/inflammation. B12 and folate
   are normal. Patient also has renal failure which also contributes to
   his anemia.  Repeat coags and DIC Labs normal except for elevated
   D-dimer which is very non-specific.
   - transfused 2units PRBC
   - guaiac all stools
   - continue to monitor
   .
   #) Hypernatremia: Patient initially had hypernatremia up to 150, s/p
   free water flushes q6h which was discontinued, when he became
   hyponatremc to 133 from two days ago improved to 136 then 142 then to
   145 today.
   -since his sodiuim is creeping back up will restart free water flushes
   with tube feeds
   #) SVT:  pt was found to be in SVT, most likely AVNRT or AVNT with no
   recent episodes in last 3 days.
   - per family, cardiovert if pt goes back into SVT with hemodynamic
   instability
   - in setting of levophed restart, need to monitor
   .
   #) Afib with RVR: resolved. was in SVT (AVRT or AVNRT), s/p
   cardioversion
   - continue to monitor on tele
   .
   #) Transaminitis: Resolved, liver synthetic function good.
   .
   #) Hypothyroidism: pt was started on levothyroxine at OSH, but unclear
   if actual hypothyrodism vs. sick euthyroid syndrome. Would not check
   thyroid function at this time as pt is acutely ill in ICU.
   - levothyroxine was discontinued in the setting of SVT
   .
   # Goals of care:
   - family to make final decision on Thursday, but based on report from
   family meeting, they are leaning toward withdrawing care but he has a
   large family and they would like to put his affairs in order
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:   family to decide today about CMO vs continued ICU care

2100-08-19 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension, renal failure,
   anemia, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient may have aspirated some of tube feeds yesterday. They have been
   stopped. Morphine infusion started for comfort. Continues to require
   vasopressors for BP support.
   Skin lesions continue to progress.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ibuprofen
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2100-8-19**] 12:53 AM
   Penicillin G potassium - [**2100-8-19**] 04:30 AM
   Acyclovir - [**2100-8-19**] 05:34 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Morphine Sulfate - 4 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2100-8-18**] 10:22 PM
   Other medications:
   albuterol, heparin sc, atrovent, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-8-19**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 87 (67 - 89) bpm
   BP: 106/38(60) {95/34(54) - 131/43(71)} mmHg
   RR: 26 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 62 kg
   CVP: 16 (14 - 20)mmHg
   Total In:
                                                                  2,137 mL
                                                                    433 mL
   PO:
   TF:
                                                                    665 mL
   IVF:
                                                                  1,009 mL
                                                                    433 mL
   Blood products:
                                                                    362 mL
   Total out:
                                                                  1,805 mL
                                                                    530 mL
   Urine:
                                                                  1,805 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 14.2 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Diffuse erythematous, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   110 K/uL
   102 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.6 mEq/L
   89 mg/dL
   114 mEq/L
   145 mEq/L
   26.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2100-8-15**]  04:38 AM
                             [**2100-8-15**]  05:02 AM
                             [**2100-8-15**]  03:10 PM
                             [**2100-8-15**]  06:45 PM
                             [**2100-8-16**]  03:49 AM
                             [**2100-8-16**]  04:02 AM
                             [**2100-8-16**]  01:20 PM
                             [**2100-8-17**]  04:42 AM
                             [**2100-8-17**]  04:54 AM
                             [**2100-8-18**]  03:55 AM
   WBC
   12.3
   10.4
   8.0
   7.9
   Hct
   21.3
   22.7
   22.9
   20.8
   26.2
   Plt
   136
   115
   116
   120
   110
   Cr
   2.4
   2.3
   2.2
   1.9
   1.7
   TCO2
   17
   18
   19
   Glucose
   107
   112
   125
   111
   102
   Other labs: PT / PTT / INR:13.1/28.1/1.1, CK / CKMB /
   Troponin-T:112/8/0.04, ALT / AST:31/27, Alk Phos / T Bili:243/0.8,
   Amylase / Lipase:49/37, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.1 %, D-dimer:1601 ng/mL, Fibrinogen:505
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:182 IU/L, Ca++:6.9
   mg/dL, Mg++:1.5 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 ANEMIA, CHRONIC
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
   ACIDOSIS
   ANEMIA
   =================
   Patient remains on vasopressors. Discussed condition again with family.
   They wish ETT to be pulled later today and patient to be made
   comfortable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2100-8-3**] 01:53 AM
   Multi Lumen - [**2100-8-3**] 12:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Critically ill
   Total time spent: 25 minutes